2195-03-07 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Still requiring a lot of benzos
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Diazepam (Valium) - [**2195-3-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-7**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 77 (70 - 100) bpm
   BP: 128/70(83) {83/21(38) - 152/95(107)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    230 mL
                                                                    970 mL
   PO:
             TF:
   IVF:
                                                                    230 mL
                                                                    970 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    340 mL
   Urine:
                                                                    260 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 387 (387 - 387) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 10.8 L/min
   Physical Examination
   Gen: Sedated and intubated.
   HEENT: NCAT. Sclera anicteric. PERRL. MMM.
   Neck: Unable to properly assess JVP.
   CV: S1S2 I/VI holosystolic murmur at apex radiating to left sternal
   border
   Chest: CTAB in anterior lung fields.
   Abd: Soft, NTND. No HSM or tenderness. No abdominial bruits.
   Ext: Left femoral hematoma, right lower ext colder than left, pulses
   present
   Neuro: limited by sedation
   Labs / Radiology
   146 K/uL
   11.9 g/dL
   122 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   142 mEq/L
   33.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2195-3-6**]  10:42 PM
                             [**2195-3-7**]  05:46 AM
   WBC
   6.6
   6.6
   Hct
   34.4
   33.7
   Plt
   146
   146
   Cr
   0.9
   0.9
   Glucose
   127
   122
   Other labs: PT / PTT / INR:16.5/72.4/1.5, Ca++:8.1 mg/dL, Mg++:2.3
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Patient is a 69 year old man with mechanical heart valve and a fib,
   admitted for PVI ablation by EP today and went into DTs post
   procedure.
   .
   # Alcohol withdrawl: Patient was noted to be withdrawing post procedure
   while his lines were pulled.  Received multiple ativen IV without much
   effect. s/p intubation.
   - versed drip
   - IV valium boluses prn
   - MVI, thiamine, folate
   - will check LFTs
   .
   # S/p intubation:  Intubated as patient required multiple line pulls
   and was actively withdrawing.
   - SBT in PM once DTs is under control
   .
   # Low BP: In the setting of propofol.
   - switch sedation to versed
   - will hold lisinopril
   .
   #. Rhythm: s/p ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month and 200 mg daily
   thereafter
   - heparin bridge to coumadin 10 mg today and then 5 mg daily
   .
   # AVR: requires anticoagulation.
   - heparin bridge to coumadin as above
   - continue home aspirin 81 mg for primary cardiac protection
   .
   # Left pleural effusion:
   - isolated ? left effusion in heart failue is atypical, need better CXR
   once alcohol withdrawl is over
   .
   # Hematoma/asymetric lower ext temp: Left hematoma.
   - femoral US
   - serial HCT
   - Type and cross
   .
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   .
   Insomnia:
   - Continue home amitriptyline 50 mg qhs for sleep.
   .
   #. FEN: NPO for now
   .
   #. Access: peripheral IV, PPI
   .
   #. PPx: will start heparin gtt at midnight
   .
   #. Code: full code
   .
   #. Dispo: ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-6**] 10:08 PM
   18 Gauge - [**2195-3-6**] 10:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-08 08:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Required increasing doses of valium, finally well controlled on 45mg
   PO q 1 HR per CIWA
   - HCT dropped to around 30 evening
   - femoral u/s showing left hematoma w/o fistula or pseudoaneurysm
   - PEr EP, amio 200 TID, coumadin 10mg on [**3-7**] and 5mg for [**3-8**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-3-7**] 08:18 AM
   Furosemide (Lasix) - [**2195-3-7**] 10:07 AM
   Diazepam (Valium) - [**2195-3-7**] 04:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-8**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 106 (86 - 116) bpm
   BP: 148/71(90) {121/63(76) - 158/116(123)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,872 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  1,472 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    335 mL
   Urine:
                                                                  2,270 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -398 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 627 (401 - 811) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished, elderly [**Male First Name (un) **]
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   132 K/uL
   10.4 g/dL
   148 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.3 mEq/L
   9 mg/dL
   102 mEq/L
   135 mEq/L
   28.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2195-3-6**]  10:42 PM
                             [**2195-3-7**]  05:46 AM
                             [**2195-3-7**]  11:43 AM
                             [**2195-3-7**]  08:24 PM
                             [**2195-3-8**]  03:05 AM
                             [**2195-3-8**]  07:13 AM
   WBC
   6.6
   6.6
   7.5
   Hct
   34.4
   33.7
   35.3
   30.9
   29.6
   28.6
   Plt
   146
   146
   132
   Cr
   0.9
   0.9
   0.8
   Glucose
   127
   122
   148
   Other labs: PT / PTT / INR:19.6/150.0/1.8, ALT / AST:27/44, Alk Phos /
   T Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.2 mg/dL, Mg++:1.8
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.
   -          Trend q6 hour hematocrits
   -          Transfuse 1 unit platelets given that patient has been
   receiving ASA for primary cardiac prevention
   -          Transfuse to keep hct > 28
   -          Vitamin K 2 mg PO x 1 to reverse INR
   -          CT pelvis this AM
   -          Vascular Surgery consult
   -          Hold heparin gtt x 12 hours given high risk of bleeding vs.
   low risk of stroke for this short period
   # Alcohol withdrawl: Patient was noted to be withdrawing post procedure
   while his lines were pulled.  He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.
   - Continue Valium CIWA scale q1 hours
   - MVI, thiamine, folate
   # S/p intubation:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - SBT today, with plan for extubation
   #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   .
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation will be held for short-term in the
   setting of groin hematoma.
   - resume anticoagulation with heparin bridge to coumadin as soon as
   groin hematoma is stabilized.  Goal INR 2.5-3.5.
   # Left pleural effusion:  unknown etiology.  Isolated ? left effusion
   in heart failure is atypical, need better CXR once alcohol withdrawal
   resolved.
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: NPO for now
   #. PPx:  DVT ppx with pneumoboots while systemic anticoagulation is
   held.   PPI as GI prophylaxis.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-7**] 08:56 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2195-03-09 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Alcohol withdrawl, acute blood loss anemia
   24 Hour Events:
   - Developed enlarging left groin hematoma
   - Vascular surgery consulted -> no plan for evacuation, but advised
   serial hct, stop heparin gtt
   - Gave Vitamin K 2 mg PO to reverse INR
   - Transfused 1 unit platelets given patient is on ASA
   - ASA discontinued
   - Heparin gtt held; OK to hold briefly per EP.
   - CT pelvis performed
   - Extubated in the PM
   - Reintubated due to increased secretions, inability to protect airway
   - Sedation switched from fentanyl/versed to Propofol
   - Valium CIWA dose decreased to 10 mg q 2 PRN & Valium 10 mg q6
   standing, with plan to taper standing dose while intubated
   - Sputum gram stain with 2+ GPC's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Integumentary (skin): large hematoma
   Flowsheet Data as of  [**2195-3-9**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 75 (75 - 135) bpm
   BP: 106/50(64) {101/50(64) - 154/88(98)} mmHg
   RR: 15 (13 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,425 mL
                                                                  2,120 mL
   PO:
             TF:
   IVF:
                                                                    403 mL
                                                                  2,020 mL
   Blood products:
                                                                    562 mL
   Total out:
                                                                    705 mL
                                                                    455 mL
   Urine:
                                                                    705 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                  1,665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 608 (326 - 681) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.43/39/167/25/2
   Ve: 7.3 L/min
   PaO2 / FiO2: 418
   Physical Examination
   Gen: Intubated, sedated
   HEENT: PERRL
   Heart: s1s2 + click
   Lungs:
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed, large hematoma in groin/left leg
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   9.5 g/dL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   27.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2195-3-6**]  10:42 PM
                             [**2195-3-7**]  05:46 AM
                             [**2195-3-7**]  11:43 AM
                             [**2195-3-7**]  08:24 PM
                             [**2195-3-8**]  03:05 AM
                             [**2195-3-8**]  07:13 AM
                             [**2195-3-8**]  02:50 PM
                             [**2195-3-8**]  09:01 PM
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
   WBC
   6.6
   6.6
   7.5
   9.0
   Hct
   34.4
   33.7
   35.3
   30.9
   29.6
   28.6
   30.4
   31.1
   27.4
   Plt
   146
   146
   132
   192
   168
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   27
   Glucose
   127
   122
   148
   105
   Other labs: PT / PTT / INR:18.0/32.7/1.6, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.
   -          Trend q6 hour hematocrits
   -          Transfused 1 unit platelets given that patient has been
   receiving ASA for primary cardiac prevention
   -          Transfuse to keep hct > 27
   -          Vitamin K 2 mg PO x 1 to reverse INR
   -          Vascular Surgery consult following, repeat U/S groin
   -          Hold heparin given high risk of bleeding vs. low risk of
   stroke for this short period
   -          Continue direct external pressure
   -          CT a/p now to re-eval bleed
   # Alcohol withdrawl: Patient was noted to be withdrawing post procedure
   while his lines were pulled. Per wife, drinks up to 10 drinks per day.
    He was intubated in the setting of agitation.   He has required high
   doses of Valium q1 hours per CIWA scale.
   - Continue Valium CIWA scale q2 hours, on standing valium, also on
   Propfol
   - MVI, thiamine, folate
   - CT head now to eval for acute intracranial process
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI high today, with reported secretions
   - CXR in AM
   - No plans for extubation today
   - f/u sputum cx
   - Cover with vanco/levo pending speciation & sensitivities
   - Gentle diuresis today, goal even to 1 L negative
   #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   .
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation will be held for short-term in the
   setting of groin hematoma.
   - resume anticoagulation with heparin bridge to coumadin as soon as
   groin hematoma is stabilized.  Goal INR 2.5-3.5.
   # Left pleural effusion:  unknown etiology.  Isolated ? left effusion
   in heart failure is atypical, need better CXR once alcohol withdrawal
   resolved.
   - no plan for tap now, unlikely to be impeding wean
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: NPO for now
   #. PPx:  DVT ppx with pneumoboots while systemic anticoagulation is
   held.   PPI as GI prophylaxis.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-8**] 11:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-09 11:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 y/o m with EtOH abuse, CMP with EF 30%, afib, St. [**Male First Name (un) 1930**] aortic
   [**Male First Name (un) 5492**].
   24 Hour Events:
   Vascular surgery was consulted regarding enlarging groin hematoma and
   req a vascular U/S. CT pelvis showed no RP bleed. Extubated yesterday,
   but reintubated for increased secretions and inability to protect
   airway. Valium was decreased to 10 mg q6h standing and prn. Sputum with
   GPC.
 INVASIVE VENTILATION - STOP [**2195-3-8**] 02:02 PM
 INVASIVE VENTILATION - START [**2195-3-8**] 08:45 PM
 INVASIVE VENTILATION - START [**2195-3-8**] 09:09 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-9**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 84 (73 - 135) bpm
   BP: 125/66(80) {97/48(60) - 152/88(98)} mmHg
   RR: 27 (15 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,425 mL
                                                                  2,656 mL
   PO:
             TF:
   IVF:
                                                                    403 mL
                                                                  2,496 mL
   Blood products:
                                                                    562 mL
   Total out:
                                                                    705 mL
                                                                    695 mL
   Urine:
                                                                    705 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    720 mL
                                                                  1,961 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 415 (326 - 608) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 134
   PIP: 15 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.43/39/167/25/2
   Ve: 6.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   168 K/uL
   105 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   12 mg/dL
   104 mEq/L
   138 mEq/L
   27.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2195-3-6**]  10:42 PM
                             [**2195-3-7**]  05:46 AM
                             [**2195-3-7**]  11:43 AM
                             [**2195-3-7**]  08:24 PM
                             [**2195-3-8**]  03:05 AM
                             [**2195-3-8**]  07:13 AM
                             [**2195-3-8**]  02:50 PM
                             [**2195-3-8**]  09:01 PM
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
   WBC
   6.6
   6.6
   7.5
   9.0
   Hct
   34.4
   33.7
   35.3
   30.9
   29.6
   28.6
   30.4
   31.1
   27.4
   Plt
   146
   146
   132
   192
   168
   Cr
   0.9
   0.9
   0.8
   0.8
   TCO2
   27
   Glucose
   127
   122
   148
   105
   Other labs: PT / PTT / INR:18.0/32.7/1.6, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. Acute blood loss anemia/groin bleed
   -hct q6h, hct 27 goal
   -vascular U/S
   -hold heparin and coumadin for now
   -cards recs
   -apply pressure externally
   2. EtOH w/d/AMS: Controlled on propofol and standing valium
   -check head CT to r/o bleed given atypical time frame for DTs
   3. resp failure: Intubated for secretions and airway protection
   -CXR
   -tan secretions
   -f/u cx
   -vanco/levoflox
   -try lasix today for diuresis 1L
   4. afib: amiodarone, s/p ablation
   5. FEN: NPO, for now
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-8**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2195-03-10 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Bleeding groin site / altered mental status
   24 Hour Events:
   Consults
   - EP Recs: transfuse PRBCs, hold heparin x 24 hours & then restart
   without bolus, continue amiodarone taper, monitor daily ECGs, obtain
   pelvis/thigh CT and head CT
   - Vascular Recs: Please monitor serial HCT and continue to hold heparin
   Interventions
   - Goal slightly negative; stopped standingTITLE:
    IVF and started Lasix 40mg IV
   - Started Vanc/Levofloxacin [**3-8**] given increased secretions, upward
   trending WBCs, low grade fever for CAP / GPC in sputum
   - Repeat Hct 27.4 --> 28.7 --> 26.4 (1u pRBCs transfused)--> 27.6 1h
   post-transfusion --> 26.7 (transfused 1 additional units), pulses good,
   no evidence of significant increase in size of hematoma
   Imaging
   - CXR obtained with concern for worsening left lung process
   - CT head:  No acute intracranial process
   - CT leg: No significant interval change in the large hematoma in the
   left thigh adductor muscle compartment since the prior CT scan dated
   [**2195-3-8**].
   - U/S leg to assess for pseudoanuerysm: Negative, hematoma unchanged
   - put on a rate 2/2 apnea and low minute volume, decreased sedation
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-9**] 02:33 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley
   Integumentary (skin): Large left groin / thigh hematoma
   Flowsheet Data as of  [**2195-3-10**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 88) bpm
   BP: 112/62(75) {92/48(58) - 135/75(90)} mmHg
   RR: 20 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
           Total In:
                                                                  3,791 mL
                                                                    445 mL
   PO:
           TF:
   IVF:
                                                                  3,221 mL
                                                                    167 mL
   Blood products:
                                                                    350 mL
                                                                    158 mL
   Total out:
                                                                  1,690 mL
                                                                    255 mL
   Urine:
                                                                  1,690 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,101 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 332 (332 - 487) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.45/41/116/26/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft
   Skin:  Not assessed, Left lower extremity hematoma
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   172 K/uL
   9.9 g/dL
   97 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   26.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2195-3-8**]  07:13 AM
                             [**2195-3-8**]  02:50 PM
                             [**2195-3-8**]  09:01 PM
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
                             [**2195-3-9**]  12:11 PM
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
   WBC
   9.0
   7.7
   Hct
   28.6
   30.4
   31.1
   27.4
   28.7
   26.4
   27.6
   26.7
   Plt
   192
   168
   172
   Cr
   0.8
   0.7
   TCO2
   27
   29
   Glucose
   105
   97
   Other labs: PT / PTT / INR:15.7/25.6/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-8**] 11:57 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint: Status asthmaticus
   24 Hour Events:
   - EP Recs: transfuse PRBCs, hold heparin x 24 hours & then restart
   without bolus, continue amiodarone taper, monitor daily ECGs, obtain
   pelvis/thigh CT and head CT
   - Vascular Recs: Please monitor serial HCT and continue to hold heparin
   - Goal slightly negative; stopped standing IVF and started Lasix 40mg
   IV
   - Started Vanc/Levofloxacin [**3-8**] given increased secretions, upward
   trending WBCs, low grade fever for CAP / GPC in sputum
   - Repeat Hct 27.4 --> 28.7 --> 26.4 (1u pRBCs transfused)--> 27.6 1h
   post-transfusion --> 26.7 (transfused 1 additional units), pulses good,
   no evidence of significant increase in size of hematoma
   - CXR obtained with concern for worsening left lung process
   - CT head:  No acute intracranial process
   - CT leg: No significant interval change in the large hematoma in the
   left thigh adductor muscle compartment since the prior CT scan dated
   [**2195-3-8**].
   - U/S leg to assess for pseudoanuerysm: Negative, hematoma unchanged
   - put on a rate 2/2 apnea and low minute volume, decreased sedation
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-9**] 02:33 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Flowsheet Data as of  [**2195-3-10**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 88) bpm
   BP: 112/62(75) {92/48(58) - 135/75(90)} mmHg
   RR: 20 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
           Total In:
                                                                  3,791 mL
                                                                    502 mL
   PO:
           TF:
   IVF:
                                                                  3,221 mL
                                                                    176 mL
   Blood products:
                                                                    350 mL
                                                                    206 mL
   Total out:
                                                                  1,690 mL
                                                                    255 mL
   Urine:
                                                                  1,690 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,101 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 332 (332 - 487) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.45/41/116/26/4
   Ve: 9.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Head, Ears, Nose, Throat: OG tube
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   172 K/uL
   9.9 g/dL
   97 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   26.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2195-3-8**]  07:13 AM
                             [**2195-3-8**]  02:50 PM
                             [**2195-3-8**]  09:01 PM
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
                             [**2195-3-9**]  12:11 PM
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
   WBC
   9.0
   7.7
   Hct
   28.6
   30.4
   31.1
   27.4
   28.7
   26.4
   27.6
   26.7
   Plt
   192
   168
   172
   Cr
   0.8
   0.7
   TCO2
   27
   29
   Glucose
   105
   97
   Other labs: PT / PTT / INR:15.7/25.6/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Vitamin K 2 mg PO x 1 to reverse INR. Transfused 1 unit
   platelets given that patient has been receiving ASA for primary cardiac
   prevention. Was initially stable, but then had drop in HCT overnight
   [**3-9**] without obvious external change.  Repeat imaging without
   significant interval change.  Groin u/s without pseudoaneurysm.
   -          Trend q6 hour hematocrits
   -          Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight
   -          Vascular Surgery consult following, appreciate recs
   -          Will restart heparin without bolus.  Feel that risk of
   stroke and mechanical [**Month/Day (4) 5492**] clot greater than bleeding risk at this
   point
   -          Continue direct external pressure
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - Continue Valium CIWA scale q2 hours, on standing valium, also on
   Propfol
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI 100 today
   - CXR in AM
   - f/u sputum cx
   - Cover with vanco/levo pending speciation & sensitivities
   - Goal I/O = even to negative
   #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation will be held for short-term in the
   setting of groin hematoma.
   - resume anticoagulation with heparin bridge to coumadin as soon as
   groin hematoma is stabilized.  Goal INR 2.5-3.5.
   # Left pleural effusion:  unknown etiology.  Isolated ? left effusion
   in heart failure is atypical, need better CXR once alcohol withdrawal
   resolved.
   - no plan for tap now, unlikely to be impeding wean
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: NPO for now
   #. PPx:  DVT ppx with pneumoboots while systemic anticoagulation is
   held.   PPI as GI prophylaxis.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-8**] 11:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-10 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT leg and pelvis showed no change. Femoral U/S showed no
   pseudoaneurysm or AVF. Hct went from 26 to 27 with 1U PRBCs, then down
   to 26.7, now getting another unit PRBC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-9**] 02:33 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-10**] 10:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 77 (70 - 88) bpm
   BP: 124/68(82) {92/49(58) - 135/75(90)} mmHg
   RR: 19 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
           Total In:
                                                                  3,791 mL
                                                                    792 mL
   PO:
           TF:
   IVF:
                                                                  3,221 mL
                                                                    232 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                  1,690 mL
                                                                  1,035 mL
   Urine:
                                                                  1,690 mL
                                                                  1,035 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,101 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 395 (332 - 487) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.45/41/116/26/4
   Ve: 8.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Ext: Warm feet, good DP pulses
   Labs / Radiology
   9.9 g/dL
   172 K/uL
   97 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   26.7 %
   7.7 K/uL
        [image002.jpg]
                             [**2195-3-8**]  07:13 AM
                             [**2195-3-8**]  02:50 PM
                             [**2195-3-8**]  09:01 PM
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
                             [**2195-3-9**]  12:11 PM
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
   WBC
   9.0
   7.7
   Hct
   28.6
   30.4
   31.1
   27.4
   28.7
   26.4
   27.6
   26.7
   Plt
   192
   168
   172
   Cr
   0.8
   0.7
   TCO2
   27
   29
   Glucose
   105
   97
   Other labs: PT / PTT / INR:15.7/25.6/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. Groin Bleed: Stable appearance, but hct not fully bumping to PRBCs
   -restart heparin gtt without a bolus, goal PTT 50-70
   -f/u vasc recs
   -cont. pressure dressing
   2. EtOH withdrawl: Now just getting valium 10 mg q6h and no prn
   -prn valium q2h
   -hold propofol
   3. Resp failure: ? Asp PNA
   -if following commangs consider extubation if RISB <110
   -goal neg 500
   -f/u cx
   4. AVR/afib: Heparin gtt restart without a bolus
   5. FEN if no extubation start TF
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-8**] 11:57 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as described above with the following
   emphasis/modifications:
   Overnight, continues to have slow decrease in hemoglobin.  Off
   sedation, still apparently confused with minimal capacity to follow
   commands.
   T 37.8    P 77  BP 124/66  RR 19  SaO2: 100%
   Intubated,
   CTA bilaterally
   S1S2 reg
   Abd: soft NT ND
   Left leg: enlarged with ecchymosis
   Hct 28
   A:
   1)       Mental status change
 probable alcohol withdrawal although
   will look for other causes including subclincal seizures (HCT negative)
   2)       Respiratory failure
   3)       Left groin hemorrhage
   4)       Aortic Valve replacement (st. Jude Valve)
   Plan:
   1)       EEG to rule out sub-clinical seizures
   2)       Patient very high risk for valve thrombosis given St jude
   valve.  Although the decision of risk/benefit is challenging, after
   discussion with cardiology, I believe that the balance of risk is
   higher if we do not re-start heparin.  Thus, on cardiology
   recommendation, we will proceed to re-start heparin without a bolus
   3)       Follow serial hemoglobins and transfuse as  needed
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2195-3-10**] 19:32 ------

2195-03-11 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-3-10**] 12:21 PM
 EEG - At [**2195-3-10**] 04:32 PM
   - s/p 2U PRBC transfused the night prior; Hct has remained stable
   - Vascular recs: monitor, do not start heparin
   - Cardiology recs: restart heparin given significant risk for stroke /
   thrombotic event, especially in the peri-PVI ablation period
   - Changed valium to PRN dosing
   - EEG obtained: pending
   - Lactulose added for potential hepatic encephalopathy
   - Weaned sedation, but patient never able to fully follow commands,
   protect airway but did have increased RR; successful extubation thought
   unlikely so increased sedation
   - TF started given unlikely to extubate
   - Heparin gtt started without bolus, and at less than half recommended
   start rate, first PTT > 150, stopped and held prior to restarting with
   even lower scale
   - No e/o bleeding at groin site
   - Goal negative 500cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-10**] 09:00 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-10**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-11**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 73 (73 - 97) bpm
   BP: 100/58(67) {100/53(61) - 134/75(86)} mmHg
   RR: 27 (19 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,422 mL
                                                                    440 mL
   PO:
             TF:
             102 mL
   IVF:
                                                                    742 mL
                                                                    169 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,415 mL
                                                                    395 mL
   Urine:
                                                                  3,415 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,993 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 451 (130 - 451) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 2.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: large hematoma left lower extremity
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   196 K/uL
   10.6 g/dL
   110 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.3 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   29.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
                             [**2195-3-9**]  12:11 PM
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
   WBC
   9.0
   7.7
   9.0
   6.6
   Hct
   27.4
   28.7
   26.4
   27.6
   26.7
   30.9
   27.7
   29.1
   Plt
   168
   172
   173
   196
   Cr
   0.8
   0.7
   0.8
   TCO2
   27
   29
   Glucose
   105
   97
   110
   Other labs: PT / PTT / INR:16.4/31.0/1.5, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Vitamin K 2 mg PO x 1 to reverse INR. Transfused 1 unit
   platelets given that patient has been receiving ASA for primary cardiac
   prevention. Was initially stable, but then had drop in HCT overnight
   [**3-9**] without obvious external change.  Repeat imaging without
   significant interval change.  Groin u/s without pseudoaneurysm.
   -          Trend q6 hour hematocrits
   -          Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight
   -          Vascular Surgery consult following, appreciate recs
   -          Will restart heparin without bolus.  Cards attending feels
   that risk of stroke and mechanical [**Month/Day (4) 5492**] clot greater than bleeding
   risk at this point
   -          Continue direct external pressure
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - Continue Valium CIWA scale q2 hours, d/c standing valium, also on
   Propfol
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI 100 today, stop propofol and recheck RSBI, consider extubation
   - CXR in AM
   - f/u sputum cx
   - Cover with vanco/levo pending speciation & sensitivities
   - Goal I/O = even to negative
   #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation will be held for short-term in the
   setting of groin hematoma.
   - resume anticoagulation with heparin bridge to coumadin as soon as
   groin hematoma is stabilized.  Goal INR 2.5-3.5.
   # Bilateral pleural effusion:  unknown etiology.  Isolated ? left
   effusion in heart failure is atypical, need better CXR once alcohol
   withdrawal resolved.
   - no plan for tap now, unlikely to be impeding wean
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: NPO for now , start TF if not extubating today
   #. PPx:  DVT ppx with pneumoboots while systemic anticoagulation is
   held.   PPI as GI prophylaxis.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2195-3-11**] 03:12 AM 30 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   18 Gauge - [**2195-3-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-11 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Restarted heparin gtt without bolus. EEG done as did not wake up off
   sedation. Started TF. Was neg 2L. Hct stayed stable.
 INVASIVE VENTILATION - STOP [**2195-3-10**] 12:21 PM
 EEG - At [**2195-3-10**] 04:32 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-11**] 08:30 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-11**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-11**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 79 (73 - 97) bpm
   BP: 110/68(78) {100/53(61) - 134/75(86)} mmHg
   RR: 27 (21 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,422 mL
                                                                    871 mL
   PO:
             TF:
             210 mL
   IVF:
                                                                    742 mL
                                                                    402 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,415 mL
                                                                  1,655 mL
   Urine:
                                                                  3,415 mL
                                                                  1,655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,993 mL
                                                                   -784 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 507 (130 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 114
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 14.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   196 K/uL
   110 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.3 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   29.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2195-3-8**]  11:14 PM
                             [**2195-3-9**]  03:21 AM
                             [**2195-3-9**]  12:11 PM
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
   WBC
   9.0
   7.7
   9.0
   6.6
   Hct
   27.4
   28.7
   26.4
   27.6
   26.7
   30.9
   27.7
   29.1
   Plt
   168
   172
   173
   196
   Cr
   0.8
   0.7
   0.8
   TCO2
   27
   29
   Glucose
   105
   97
   110
   Other labs: PT / PTT / INR:16.4/31.0/1.5, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.4 mg/dL, Mg++:1.8
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. Groin hematoma: Improved appearance, hct stable
   -q8h hct
   -titrating heparin gtt, currently at 500
   2. AMS: Not waking up, hold propofol
   -f/u EEG
   -prn valium
   3. Resp failure: Await him following commangs and becoming more alert
   -collapse LLL
   -switch to levofloxacin, no MRSA
   4. hyperchol: cont. statin
   5. Hold TF in case extubatable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2195-3-11**] 03:12 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   18 Gauge - [**2195-3-11**] 12:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as described above with the following
   emphasis/modifications:
   Overnight, hemoglobin remained stable.  Off sedation, still minimal
   capacity to follow commands.  EEG results pending.
   T 37.8    P 77  BP 124/66  RR 19  SaO2:
   100%
   Intubated,
   CTA bilaterally
   S1S2 reg
   Abd: soft NT ND
   Left leg: enlarged with ecchymosis
   Hct 28
   A:
   1)       Mental status change
 HCT negative, EEG pending, could be
   alcohol withdrawal and now prolonged sedation from benzos however other
   etiologies possible so will get EEG read and may need MRI
   2)       Respiratory failure
   3)       Left groin hemorrhage
 hgb stable
   4)       Aortic Valve replacement (st. Jude Valve)
   Plan:
   1)       Get EEG read
 may need MRI if no improvement and no seizures
   on EEG to explain
   2)       Continue heparin and follow PTT closely
   3)       Follow serial hemoglobin levels and transfuse as  needed
   4)       SBT
 extubation prohibited because of mental status
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2195-3-11**] 10:26 PM ------

2195-03-12 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**3-11**]
   - EEG: area of sharp activity, could be prone to having sz, ?
   peri-procedure stroke causing sz --> Neuro will see Thursday
   - MRI head
   - wean valium
   - Stopped Vanco, kept Levaquin; speciated as Coag + Staph and sparse OP
   flora
   - Hct table
   - Adjusting heparin gtt to goal PTT 50-70
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2195-3-11**] 06:22 PM
   head
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-11**] 08:30 AM
   Levofloxacin - [**2195-3-11**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-11**] 07:51 PM
   Heparin Sodium - [**2195-3-12**] 05:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds, No(t) Parenteral nutrition
   Genitourinary: Foley
   Integumentary (skin): leg eccymoses
   Flowsheet Data as of  [**2195-3-12**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 90 (73 - 95) bpm
   BP: 127/75(86) {107/61(71) - 147/87(97)} mmHg
   RR: 28 (22 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,589 mL
                                                                    668 mL
   PO:
             TF:
                                                                    556 mL
                                                                    504 mL
   IVF:
                                                                    593 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  3,415 mL
                                                                    365 mL
   Urine:
                                                                  3,415 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,826 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 347 (347 - 507) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   11.2 g/dL
   171 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   100 mEq/L
   140 mEq/L
   32.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2195-3-9**]  06:27 PM
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
                             [**2195-3-11**]  11:36 AM
                             [**2195-3-11**]  07:20 PM
                             [**2195-3-12**]  03:43 AM
   WBC
   7.7
   9.0
   6.6
   6.5
   Hct
   26.4
   27.6
   26.7
   30.9
   27.7
   29.1
   31.1
   30.3
   32.0
   Plt
   172
   173
   196
   238
   Cr
   0.7
   0.8
   0.8
   TCO2
   29
   Glucose
   97
   110
   171
   Other labs: PT / PTT / INR:16.2/40.0/1.5, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Vitamin K 2 mg PO x 1 to reverse INR. Transfused 1 unit
   platelets given that patient has been receiving ASA for primary cardiac
   prevention. Was initially stable, but then had drop in HCT overnight
   [**3-9**] without obvious external change.  Repeat imaging without
   significant interval change.  Groin u/s without pseudoaneurysm.
   -  Trend q8 hour hematocrits
   -  Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight
   -  Vascular Surgery consult following, appreciate recs
   -  Will restart heparin without bolus.  Cards attending feels that risk
   of stroke and mechanical [**Month/Day (4) 5492**] clot greater than bleeding risk at this
   point
   -  Continue direct external pressure
   -  restart warfarin once heparin therapeutic and stable Hct
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - Continue Valium CIWA scale q2 hours, d/c standing valium, also on
   Propfol
   - MVI, thiamine, folate
   - MRI head [**3-11**], follow-up read
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI 114 today, will hold propofol and recheck RSBI, consider
   extubation
   - CXR in AM
   - f/u sputum cx
   - Cover with vanco/levo pending speciation & sensitivities
   - Goal I/O = even to negative
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation will be held for short-term in the
   setting of groin hematoma.
   - resume anticoagulation with heparin bridge to coumadin as soon as
   groin hematoma is stabilized.  Goal INR 2.5-3.5.
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: NPO for now , start TF if not extubating today
   #. PPx:  DVT ppx with pneumoboots, PPI as GI prophylaxis.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-11**] 07:51 PM 75 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   20 Gauge - [**2195-3-12**] 05:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-12 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRI unremarkable except for evidence of small [**Last Name (un) 191**] ischemia. PTT is
   creeping up to goal.
 MAGNETIC RESONANCE IMAGING - At [**2195-3-11**] 06:22 PM
   head
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-11**] 08:30 AM
   Levofloxacin - [**2195-3-11**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-3-12**] 05:26 AM
   Lansoprazole (Prevacid) - [**2195-3-12**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-12**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (81 - 95) bpm
   BP: 120/68(80) {119/65(77) - 147/87(97)} mmHg
   RR: 32 (22 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,589 mL
                                                                  1,132 mL
   PO:
             TF:
                                                                    556 mL
                                                                    789 mL
   IVF:
                                                                    593 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  3,415 mL
                                                                  1,730 mL
   Urine:
                                                                  3,415 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,826 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 396 (347 - 413) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   238 K/uL
   171 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   16 mg/dL
   100 mEq/L
   140 mEq/L
   33.2 %
   6.5 K/uL
        [image002.jpg]
                             [**2195-3-9**]  09:59 PM
                             [**2195-3-10**]  03:33 AM
                             [**2195-3-10**]  04:33 AM
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
                             [**2195-3-11**]  11:36 AM
                             [**2195-3-11**]  07:20 PM
                             [**2195-3-12**]  03:43 AM
                             [**2195-3-12**]  11:06 AM
   WBC
   7.7
   9.0
   6.6
   6.5
   Hct
   27.6
   26.7
   30.9
   27.7
   29.1
   31.1
   30.3
   32.0
   33.2
   Plt
   172
   173
   196
   238
   Cr
   0.7
   0.8
   0.8
   TCO2
   29
   Glucose
   97
   110
   171
   Other labs: PT / PTT / INR:16.2/40.0/1.5, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. AMS: Possibly [**2-2**] valium overdose vs. seizure vs. toxic/metabolic
   -neuro consult
   -f/u final MRI read
   -change thiamine to IV
   -give him B12
   2. resp failure: [**2-2**] AMS and secretions
   -change to vanco f/u sputum cx
   -daily lasix, goal even
   3. Groin hematoma: No active bleeding
   -cont. heparin, goal 50-70
   -hct check to [**Hospital1 **]
   4. afib: Remains in sinus
   -cont. amiodarone
   5. FEN: TF
   6. Communication: talk to neighbor about any family
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-11**] 07:51 PM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   20 Gauge - [**2195-3-12**] 05:05 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as described above with the following
   emphasis/modifications:
   Overnight, hemoglobin remained stable.  Off sedation, still minimal
   capacity to follow commands.  EEG results pending.
   T 37.8    P 77  BP 147/66  RR 19  SaO2:
   100%
   Intubated,
   CTA bilaterally
   S1S2 reg
   Abd: soft NT ND
   Left leg: enlarged with ecchymosis
   Neuro: Arousable but not following commands; has some movement of
   extremities with painful stimuli but I still feel this is diminished
   See labs above
   A:
   1)       Mental status change
 HCT negative, MRI negative, EEG without
   seizures. Neuro following and believe most likely etiology is lingering
   effects of benzos.  Also, I am not convinced the patient has adequate
   movement and strength in his extremities. Neurology reports being able
   to elicit excellent withdrawal and movement but I am not able to on
   exam and will therefore move toward imaging of the cervical spine.
   2)       Respiratory failure
 lungs improved but cannot extubate
   secondary to mental status
   3)       Left groin hemorrhage
 hgb stable
   4)       Aortic Valve replacement (st. Jude Valve)
   Plan:
   1)       Get EEG read
 may need MRI if no improvement and no seizures
   on EEG to explain
   2)       Continue heparin and follow PTT closely
   3)       Follow serial hemoglobin levels although bleeding seems under
   control at this time
   4)       SBT
 extubation prohibited because of mental status
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 1526**], MD
   on:[**2195-3-13**] 10:58 PM ------

2195-03-13 08:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: DTs / traumatic sheath pull
   24 Hour Events:
   - titrate heparin gtt, now at goal
   - Neuro c/s - not paralyzed, AMS likely [**2-2**] to meds, will take time to
   clear, put in C-collar awaitng further eval of nekc
   - ordered MR spine
   - HCT stable
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-12**] 12:00 PM
   Levofloxacin - [**2195-3-12**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-3-12**] 12:30 PM
   Furosemide (Lasix) - [**2195-3-12**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO, Tube feeds
   Genitourinary: Foley
   Flowsheet Data as of  [**2195-3-13**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 88 (82 - 97) bpm
   BP: 128/74(87) {112/62(74) - 141/85(95)} mmHg
   RR: 19 (19 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,692 mL
                                                                    783 mL
   PO:
             TF:
                                                                  1,709 mL
                                                                    606 mL
   IVF:
                                                                    453 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    335 mL
   Urine:
                                                                  2,810 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                    448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (333 - 420) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   294 K/uL
   11.5 g/dL
   179 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   25 mg/dL
   97 mEq/L
   139 mEq/L
   33.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
                             [**2195-3-11**]  11:36 AM
                             [**2195-3-11**]  07:20 PM
                             [**2195-3-12**]  03:43 AM
                             [**2195-3-12**]  11:06 AM
                             [**2195-3-12**]  05:18 PM
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
   WBC
   9.0
   6.6
   6.5
   9.2
   Hct
   30.9
   27.7
   29.1
   31.1
   30.3
   32.0
   33.2
   33.1
   34.0
   33.1
   Plt
   173
   196
   238
   294
   Cr
   0.8
   0.8
   0.8
   Glucose
   110
   171
   179
   Other labs: PT / PTT / INR:15.5/51.7/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Vitamin K 2 mg PO x 1 to reverse INR. Transfused 1 unit
   platelets given that patient has been receiving ASA for primary cardiac
   prevention. Was initially stable, but then had drop in HCT overnight
   [**3-9**] without obvious external change.  Repeat imaging without
   significant interval change.  Groin u/s without pseudoaneurysm.
   -  Trend q8 hour hematocrits while blood in foley
   -  Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight
   -  Vascular Surgery consult following, appreciate recs
   -  restart warfarin once heparin therapeutic and stable Hct
   # Mental status change: Nonfocal exam. Mri done and no acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s today
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - Continue Valium CIWA scale q2 hours, d/c standing valium, also on
   Propfol
   - MVI, thiamine, folate
   - MRI head [**3-11**], follow-up read
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI 114 today, will hold propofol and recheck RSBI, consider
   extubation
   - Coag+staph in sputum cx
 on Vanco, f/u sensitivities
   - Goal I/O = even to negative, change to daily  lasix
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to coumadin as soon as groin hematoma is stabilized.  Goal INR
   2.5-3.5.
   - adjust heparin sliding scale
   # Elevated cholesterol:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: TF
   #. PPx:  DVT ppx with pneumoboots, PPI.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-13**] 01:35 AM 75 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   20 Gauge - [**2195-3-12**] 05:05 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2195-03-13 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PTT now therapeutic. Neuro found that patient does withdraw to pain,
   [**Last Name (un) **] C spine collar, but no MRI. Still not following commands.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-12**] 12:00 PM
   Levofloxacin - [**2195-3-12**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-3-12**] 12:30 PM
   Furosemide (Lasix) - [**2195-3-12**] 07:58 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-13**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.7
   HR: 89 (82 - 97) bpm
   BP: 123/67(80) {112/62(74) - 141/85(95)} mmHg
   RR: 28 (11 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,692 mL
                                                                  1,127 mL
   PO:
             TF:
                                                                  1,709 mL
                                                                    834 mL
   IVF:
                                                                    453 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                    895 mL
   Urine:
                                                                  2,810 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 365 (333 - 420) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///32/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   294 K/uL
   179 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.8 mEq/L
   25 mg/dL
   97 mEq/L
   139 mEq/L
   33.1 %
   9.2 K/uL
        [image002.jpg]
                             [**2195-3-10**]  10:26 AM
                             [**2195-3-10**]  06:10 PM
                             [**2195-3-11**]  04:12 AM
                             [**2195-3-11**]  11:36 AM
                             [**2195-3-11**]  07:20 PM
                             [**2195-3-12**]  03:43 AM
                             [**2195-3-12**]  11:06 AM
                             [**2195-3-12**]  05:18 PM
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
   WBC
   9.0
   6.6
   6.5
   9.2
   Hct
   30.9
   27.7
   29.1
   31.1
   30.3
   32.0
   33.2
   33.1
   34.0
   33.1
   Plt
   173
   196
   238
   294
   Cr
   0.8
   0.8
   0.8
   Glucose
   110
   171
   179
   Other labs: PT / PTT / INR:15.5/51.7/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. AMS: Suspect [**2-2**] to large po dose of valium
   -follow neuro exam
   -C collar until awakes
   2. Groin bleed:
   -hct stable
   -PTT therapeutic
   3. afib: Cont. po amio
   4. FEN: Cont. TF
   5. Resp: Intubated for airway protection
   -await more alertness
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-13**] 01:35 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   20 Gauge - [**2195-3-12**] 05:05 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2195-03-14 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2195-3-13**] 09:00 PM
   [**3-13**]
   - MRI C-spine obtained, awaiting final read so remains in [**Name (NI) 6301**]
   - PTT therapeutic, Hct stable
   - Neuro Recs: Obtain MRI c-spine, page with any further questions
   - Micro sputum: MSSA; on Levofloxacin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-12**] 12:00 PM
   Levofloxacin - [**2195-3-12**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-14**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 92) bpm
   BP: 113/63(76) {104/58(72) - 132/89(99)} mmHg
   RR: 18 (9 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,595 mL
                                                                    432 mL
   PO:
             TF:
                                                                    975 mL
                                                                    338 mL
   IVF:
                                                                    300 mL
                                                                     95 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    225 mL
   Urine:
                                                                  1,710 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 468 (316 - 468) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, Endotracheal tube, NG
   tube, [**Location (un) 1083**] J
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: No spontaneous
   movement, Tone: Not assessed, Withdraws to pain x 4
   Labs / Radiology
   314 K/uL
   10.8 g/dL
   147 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.4 mEq/L
   36 mg/dL
   97 mEq/L
   141 mEq/L
   32.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2195-3-11**]  07:20 PM
                             [**2195-3-12**]  03:43 AM
                             [**2195-3-12**]  11:06 AM
                             [**2195-3-12**]  05:18 PM
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
                             [**2195-3-13**]  11:16 AM
                             [**2195-3-13**]  05:06 PM
                             [**2195-3-14**]  02:31 AM
                             [**2195-3-14**]  05:47 AM
   WBC
   6.5
   9.2
   8.6
   Hct
   30.3
   32.0
   33.2
   33.1
   34.0
   33.1
   35.6
   32.6
   32.2
   32.3
   Plt
   238
   294
   314
   Cr
   0.8
   0.8
   0.8
   Glucose
   171
   179
   147
   Other labs: PT / PTT / INR:15.9/65.1/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.2 mg/dL, Mg++:2.6
   mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs.
   # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.
   -  [**Hospital1 7**] Hcts
   -  Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight
   -  Vascular Surgery consult following, appreciate recs
   -  restart warfarin once heparin therapeutic and stable Hct
   # Mental status change/weakness: Nonfocal exam. Mri brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s today: c-collar, not paralyzed, suspect accumulation of
   meds
   - f/u MRI c-spine
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - CIWA Scale, off sedation.
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI ___________, consider extubation once MS improved
   - MSSA in sputum cx
 changed from Vanco to Levaquin
   - Low grade temps
   - Goal I/O = even to negative 500, change to daily  lasix
   # Low grade temps: Known PNA, MSSA, on levaquin
   -          Culture if spike
   -          - Monitor closely
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month, and 200 mg daily
   thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to coumadin as soon as groin hematoma is stabilized, no plans
   for any further procedures.  Goal INR 2.5-3.5.
   - adjust heparin sliding scale, currently at goal 50-70
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: TF
   #. PPx:  DVT ppx with pneumoboots, PPI.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-14**] 04:33 AM 75 mL/hour
   Glycemic Control:
   Lines:
   16 Gauge - [**2195-3-11**] 12:00 AM
   20 Gauge - [**2195-3-12**] 05:05 AM
   Prophylaxis:
   DVT:  Boots, heparin gtt
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICUI

2195-03-15 08:14:00 Physician Resident Progress Note
Chief Complaint: Admitted for Afib ablation
   [**09**] Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2195-3-14**] 10:00 PM
   - MRI C-spine: (PRELIM) Cervical spondylosis with mild-to-moderate
   spinal stenosis at C3-4 and C4-5 with mild extrinsic indentation on the
   spinal cord. Multilevel foraminal changes. No abnormal signal within
   the spinal cord.
   - PTT therapeutic, Hct stable
   - Neuro Recs: Obtain MRI c-spine as your are, page with any further
   questions
   - Micro sputum: MSSA; on Levofloxacin
   - Febrile to 101, pan-cultured
   - DWI c-spine: prelim by NuSu attending negative for infarct
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-12**] 12:00 PM
   Levofloxacin - [**2195-3-14**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-14**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-15**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 95 (81 - 96) bpm
   BP: 138/75(89) {101/56(68) - 141/86(98)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
             Total In:
                                                                  1,066 mL
                                                                    555 mL
   PO:
             TF:
                                                                    420 mL
                                                                    377 mL
   IVF:
                                                                    446 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  2,021 mL
                                                                    390 mL
   Urine:
                                                                  2,021 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -955 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (336 - 433) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.47/47/125/32/9
   Ve: 8.4 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), No(t) S3, No(t) S4, Mechanical S2
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   356 K/uL
   11.4 g/dL
   186 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   39 mg/dL
   99 mEq/L
   138 mEq/L
   34.3 %
   9.6 K/uL
        [image002.jpg]
                             [**2195-3-12**]  11:06 AM
                             [**2195-3-12**]  05:18 PM
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
                             [**2195-3-13**]  11:16 AM
                             [**2195-3-13**]  05:06 PM
                             [**2195-3-14**]  02:31 AM
                             [**2195-3-14**]  05:47 AM
                             [**2195-3-15**]  03:16 AM
                             [**2195-3-15**]  03:47 AM
   WBC
   9.2
   8.6
   9.6
   Hct
   33.2
   33.1
   34.0
   33.1
   35.6
   32.6
   32.2
   32.3
   34.3
   Plt
   294
   314
   356
   Cr
   0.8
   0.8
   0.8
   TCO2
   35
   Glucose
   179
   147
   186
   Other labs: PT / PTT / INR:15.7/57.0/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:9.1 mg/dL, Mg++:2.5
   mg/dL, PO4:3.1 mg/dL
   Imaging: MR [**Name13 (STitle) 6312**] - [**3-13**] -Changes of cervical spondylosis as
   described above with spinal
   stenosis at C3-4 and C4-5 and mild extrinsic indentation on the spinal
   cord.
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs, and now fluctuating mental status and
   extremity weakness.
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.
   -  [**Hospital1 7**] Hcts
 daily given stability of HCT
   -  Transfuse to keep hct > 27; transfused 2u [**3-9**] overnight, stable
   since
   -  Vascular Surgery consult has signed off, call with questions
   -  restart warfarin once heparin therapeutic and stable Hct, plan for
   [**3-16**] to start load
   # Mental status change/weakness: Nonfocal exam. Mri brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s today: c-collar, not paralyzed, suspect accumulation of
   meds
   - f/u MRI c-spine read
   - Evoked potentials
   # Fever: Probable PNA on CXR, concerning for VAP.
   - mini-BAL
   - Start Vanc/zosyn/cipro, stop Levaquin
   - TTE for ? vegetation
   -
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI <50,  consider extubation once MS improved
   - MSSA in sputum cx
 changed from Vanco to Levaquin
   - febrile now, tx for ? VAP
   - Goal I/O = even to negative 500, change to [**Hospital1 7**] lasix
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - continue current heparin sliding scale, currently at goal 50-70
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: TF
   #. PPx:  DVT ppx with pneumoboots, PPI.
   #. Code: full code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-12**] 05:05 AM
   18 Gauge - [**2195-3-14**] 11:40 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2195-03-16 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Bleeding / alcohol withdrawal
   24 Hour Events:
 PAN CULTURE - At [**2195-3-15**] 08:00 AM
 FEVER - 101.3
F - [**2195-3-15**] 04:00 PM
   - Pt appears to have left-sided weakness arm > leg.  Per neurosurg,
   ordered evoked potential
   - TTE ordered to evaluate for vegetations
   - mini-BAL - no micro organisms, no polys
   - spiked to 101, pan-cx, d/c'd levo and added vanc/zosyn
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-3-14**] 04:00 PM
   Piperacillin - [**2195-3-15**] 03:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-16**] 12:00 AM
   Vancomycin - [**2195-3-16**] 12:30 AM
   Ciprofloxacin - [**2195-3-16**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Constipation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2195-3-16**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 89 (85 - 99) bpm
   BP: 119/56(73) {110/55(67) - 142/78(90)} mmHg
   RR: 19 (15 - 37) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
             Total In:
                                                                  3,015 mL
                                                                  1,218 mL
   PO:
             TF:
                                                                  1,439 mL
                                                                    610 mL
   IVF:
                                                                  1,196 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    360 mL
   Urine:
                                                                  2,180 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    835 mL
                                                                    858 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 485 (446 - 487) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///33/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, left thigh eccymoses
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   369 K/uL
   9.7 g/dL
   201 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   39 mg/dL
   98 mEq/L
   140 mEq/L
   28.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2195-3-12**]  05:18 PM
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
                             [**2195-3-13**]  11:16 AM
                             [**2195-3-13**]  05:06 PM
                             [**2195-3-14**]  02:31 AM
                             [**2195-3-14**]  05:47 AM
                             [**2195-3-15**]  03:16 AM
                             [**2195-3-15**]  03:47 AM
                             [**2195-3-16**]  03:31 AM
   WBC
   9.2
   8.6
   9.6
   11.6
   Hct
   33.1
   34.0
   33.1
   35.6
   32.6
   32.2
   32.3
   34.3
   28.2
   Plt
   294
   314
   356
   369
   Cr
   0.8
   0.8
   0.8
   0.9
   TCO2
   35
   Glucose
   179
   147
   186
   201
   Other labs: PT / PTT / INR:15.8/63.7/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.8 mg/dL, Mg++:2.5
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6175**] is a 69 year old man with mechanical heart [**Known lastname 5492**] and a
   fib, admitted for PVI ablation by EP now with course complicated by
   left groin hematoma and DTs, and now fluctuating mental status and
   extremity weakness.
   #  Acute HCT Drop
 Hematoma seems to have expanded.  No bowel
   movements for days.
   -          transfuse for HCT <27
   -          Stop Heparin
   -          Re-image
 CT and U/S
   -          Reconsult vascular surgery
   -          Alert EP to blood drop
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.  HCt had been stable, last transfused [**3-9**]
   with new acute HCT loss
   -  [**Hospital1 7**] Hcts
 daily given stability of HCT
   -  Transfuse to keep hct > 27
   -  Vascular Surgery consult has signed off, will re-consult
   -  hold heparin
   - re-image for evidence of bleed
   # Mental status change/weakness: Nonfocal exam. Mri brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s today: c-collar, L arm flaccid
   - Evoked potentials
   # Fever: Probable PNA on CXR, concerning for VAP.
   - mini-BAL
 f/u
   - Start Vanc/zosyn/cipro
   - f/u TTE for ? vegetation
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI <50,  consider extubation once MS improved
   - MSSA in sputum cx
 changed from Vanco to Levaquin
   - febrile now, tx for ? VAP
   - Goal I/O = even to negative 500, change to [**Hospital1 7**] lasix
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - continue current heparin sliding scale, currently at goal 50-70
   - will have to hold heparin for now
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: TF
   #. PPx:  DVT ppx with pneumoboots, PPI, aggressive bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-16**] 03:01 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-12**] 05:05 AM
   18 Gauge - [**2195-3-14**] 11:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2195-03-16 11:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spiked a fever, broadened to vanco/zosyn. Seen by neurosurgery re: C
   spine stenosis and ? central cord syndrome. Hct trending down. TTE done
   to r/o clot on aortic valve.
 PAN CULTURE - At [**2195-3-15**] 08:00 AM
 FEVER - 101.3
F - [**2195-3-15**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-3-14**] 04:00 PM
   Piperacillin - [**2195-3-15**] 03:00 PM
   Vancomycin - [**2195-3-16**] 12:30 AM
   Ciprofloxacin - [**2195-3-16**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-16**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-16**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38
C (100.4
   HR: 92 (85 - 99) bpm
   BP: 115/62(75) {110/55(67) - 142/78(89)} mmHg
   RR: 24 (15 - 37) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 72 Inch
             Total In:
                                                                  3,015 mL
                                                                  1,970 mL
   PO:
             TF:
                                                                  1,439 mL
                                                                    820 mL
   IVF:
                                                                  1,196 mL
                                                                    880 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    870 mL
   Urine:
                                                                  2,180 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    835 mL
                                                                  1,100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (427 - 574) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 13 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: ///33/
   Ve: 7.1 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: very firm L inner thigh
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   369 K/uL
   201 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.7 mEq/L
   39 mg/dL
   98 mEq/L
   140 mEq/L
   25.5 %
   11.6 K/uL
        [image002.jpg]
                             [**2195-3-12**]  10:41 PM
                             [**2195-3-13**]  04:29 AM
                             [**2195-3-13**]  11:16 AM
                             [**2195-3-13**]  05:06 PM
                             [**2195-3-14**]  02:31 AM
                             [**2195-3-14**]  05:47 AM
                             [**2195-3-15**]  03:16 AM
                             [**2195-3-15**]  03:47 AM
                             [**2195-3-16**]  03:31 AM
                             [**2195-3-16**]  09:55 AM
   WBC
   9.2
   8.6
   9.6
   11.6
   Hct
   34.0
   33.1
   35.6
   32.6
   32.2
   32.3
   34.3
   28.2
   25.5
   Plt
   294
   314
   356
   369
   Cr
   0.8
   0.8
   0.8
   0.9
   TCO2
   35
   Glucose
   179
   147
   186
   201
   Other labs: PT / PTT / INR:15.8/63.7/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Albumin:3.5 g/dL, LDH:281 IU/L, Ca++:8.8 mg/dL, Mg++:2.5
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. Acute hct drop: L groin bleed as thigh appears more firm
   -call vascular
   -CT pelvis and thigh
   -speak with cards
   -transfuse
   -hold heparin for now
   2. AMS and L sided weakness: [**Month (only) 51**] be [**2-2**] valium overdose, vs. cord
   compression
   -f/u NSG recs
   -f/u evoked potentials
   3. fever: Unclear source, possible VAP
   -vanco/zosyn/cipro
   -f/u cultures
   4. Resp failure: Intubated for airway protection, now with possible VAP
   -not following commands
   5. afib/AVR
   -f/u TTE, holding heparin for now
   -amio
   6. FEN: TF, start bowel regimen
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-16**] 03:01 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt seen and examined on rounds, agree with Dr. [**First Name (STitle) 2721**]
s note as outlined
   above. 69 yo male s/p pulm vein isolation complicated post-procedure by
   agitation/DT
s, respiratory failure, groin hematoma. MS has been slow
   to recover with recent imaging studies suggesting cervical stenosis but
   no other changes. New concern for acute blood loss anemia with dropping
   hct and worsening ecchymoses/induration in groin region. Off heparin,
   abd/pelvic CT pending, Cardiology and vascular teams re-consulted.
   Evoked potentials to be obtained for cervical stenosis.  Family updated
   of events and future potential plans, as if his MS doesn
t recover
   sufficiently to permit extubation we may need to proceed with trach.
   Additional 20 minutes spent updating patient
s family at bedside.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-16**] 14:22 ------

2195-03-17 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2195-3-16**] 09:17 AM
 OR SENT - At [**2195-3-16**] 03:50 PM
   To OR w/ anesthesia for L femoral artery repair and drainage of
   bleeding into the LLE.
 MULTI LUMEN - START [**2195-3-16**] 06:[**Street Address(2) 6333**] in OR.
 ARTERIAL LINE - START [**2195-3-16**] 06:00 PM
   placed in OR.
 OR RECEIVED - At [**2195-3-16**] 06:00 PM
 MULTI LUMEN - STOP [**2195-3-16**] 08:[**Street Address(2) 6333**] in OR.
   - Continued HCT drop, transfused 2U PRBC with only fair response
   - EP contact[**Name (NI) **]: continue heparin gtt as able
   - Vascular contact[**Name (NI) **]: Taken to OR for evaluation, hematoma evacuated
   but no active extravasation; restart heparin in 24 hours without bolus
   - A-line placed in OR
   - L-subclavian in OR; CXR revealed goes toward head, line discontinued
   - TTE: not ideal quality, but no obvious vegetations
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-3-14**] 04:00 PM
   Piperacillin - [**2195-3-15**] 03:00 PM
   Ciprofloxacin - [**2195-3-16**] 02:00 AM
   Vancomycin - [**2195-3-16**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-17**] 01:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-17**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.9
   HR: 81 (75 - 102) bpm
   BP: 127/57(76) {98/46(60) - 132/59(80)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  4,847 mL
                                                                    520 mL
   PO:
             TF:
                                                                    943 mL
                                                                    227 mL
   IVF:
                                                                  2,785 mL
                                                                    233 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,095 mL
                                                                    355 mL
   Urine:
                                                                  2,055 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     20 mL
   Balance:
                                                                  2,752 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (277 - 574) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   RSBI Deferred: No Spon Resp
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.51/42/120/34/9
   Ve: 9.8 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   375 K/uL
   10.0 g/dL
   141 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.6 mEq/L
   45 mg/dL
   99 mEq/L
   142 mEq/L
   28.2 %
   13.9 K/uL
        [image002.jpg]
                             [**2195-3-14**]  02:31 AM
                             [**2195-3-14**]  05:47 AM
                             [**2195-3-15**]  03:16 AM
                             [**2195-3-15**]  03:47 AM
                             [**2195-3-16**]  03:31 AM
                             [**2195-3-16**]  09:55 AM
                             [**2195-3-16**]  04:29 PM
                             [**2195-3-16**]  08:44 PM
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
   WBC
   8.6
   9.6
   11.6
   14.3
   13.9
   Hct
   32.2
   32.3
   34.3
   28.2
   25.5
   29
   26.8
   28.2
   Plt
   [**Telephone/Fax (3) 6334**]71
   375
   Cr
   0.8
   0.8
   0.9
   1.0
   0.9
   TCO2
   35
   39
   35
   Glucose
   147
   186
   201
   125
   159
   141
   Other labs: PT / PTT / INR:15.5/28.8/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Imaging:
   [**3-16**] CT: 1. Interval increase in size of large hematoma in the left
   thigh adductor
   muscle compartments since prior CT of [**2195-3-9**], with internal
   hematocrit
   effect. This could represent a liquefying hematoma or, if the thigh
   circumference has increased, could be due to acute bleeding.
   2. No retroperitoneal hematoma.
   3. Malpositioned NG tube, with side ports at the level of the GE
   junction,
   advancement recommended.
   [**3-15**] TTE: No definite endocarditis. If clinically indicated, a TEE
   would better to exclude valvular vegetations/abcess
   Microbiology: [**3-15**] mini-BAL: No organisms
   [**3-15**]: Sputum: 2+ GPCs, rare GNRs
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a fib, admitted for PVI
   ablation by EP now with course complicated by left groin hematoma and
   DTs, and now fluctuating mental status and extremity weakness.
   #  Gran Neg Pneumonia
   - continue vanc/ zosyn/ cipro
   - narrow when sensitivites return
   #  Acute HCT Drop
 CT scan w/o RP bleed or abd bleed.
   -          transfuse for HCT <27
   -          Stopped Heparin
   -          Went to OR, no active extravasation just liquified hematoma,
   per vasc OK to restart heparin later today if Hct stable
   -          EP aware
   -          Guaiac all stools
   -          not bumping appropriately
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.  HCt had been stable, last transfused [**3-9**]
   with new acute HCT loss
   -  q 8 Hcts
   -  Transfuse to keep hct > 27
   # Mental status change/weakness: Nonfocal exam. Mri brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s today: c-collar, L arm flaccid
   - Evoked potentials ordered
   # Fever: Probable PNA on CXR, concerning for VAP. Sputum with GPCs and
   GNRs
   - f/u culture data
   - Started Vanc/zosyn/cipro on [**3-15**]
   - f/u TTE: no veg seen but suboptimal
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory:  Intubated as patient was considered a danger to self
   given agitation during sheath pull.
   - RSBI <50,  consider extubation once MS improved
   - Now with likely HAP
   - Cont abx
   - [**Month (only) 51**] need trach if not extubated soon
   - will try to extubate this afternoon
    #  Afib: s/p PVI ablation.
   - appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - continue current heparin sliding scale, currently at goal 50-70
   - heparin was held, if Hcts stable later today will restart with same
   goal
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN: TF
   #. PPx:  DVT ppx with pneumoboots, PPI, aggressive bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-16**] 03:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM
   Arterial Line - [**2195-3-16**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-17 10:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Went to OR had old hematoma evacuated, no active bleed found. SCL
   pulled as it went cephalad. RISB 107. CT showed inc hematoma in thigh,
   no RP bleed. TTE showed no vegetations. Mini BAL neg, sputum 2+ GPCs
   and rare GNR.
 TRANSTHORACIC ECHO - At [**2195-3-16**] 09:17 AM
 OR SENT - At [**2195-3-16**] 03:50 PM
   To OR w/ anesthesia for L femoral artery repair and drainage of
   bleeding into the LLE.
 MULTI LUMEN - START [**2195-3-16**] 06:[**Street Address(2) 6333**] in OR.
 ARTERIAL LINE - START [**2195-3-16**] 06:00 PM
   placed in OR.
 OR RECEIVED - At [**2195-3-16**] 06:00 PM
 MULTI LUMEN - STOP [**2195-3-16**] 08:[**Street Address(2) 6333**] in OR.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2195-3-14**] 04:00 PM
   Piperacillin - [**2195-3-15**] 03:00 PM
   Ciprofloxacin - [**2195-3-16**] 02:00 AM
   Vancomycin - [**2195-3-17**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-17**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 89 (75 - 102) bpm
   BP: 112/52(69) {98/46(60) - 132/62(82)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  4,847 mL
                                                                  1,126 mL
   PO:
             TF:
                                                                    943 mL
                                                                    267 mL
   IVF:
                                                                  2,785 mL
                                                                    659 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,095 mL
                                                                  1,105 mL
   Urine:
                                                                  2,055 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     20 mL
   Balance:
                                                                  2,752 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (277 - 470) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 107
   RSBI Deferred: No Spon Resp
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.51/42/120/34/9
   Ve: 9.6 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, Tone: Not assessed, Not moving L side
   Labs / Radiology
   10.0 g/dL
   375 K/uL
   141 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.6 mEq/L
   45 mg/dL
   99 mEq/L
   142 mEq/L
   27.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2195-3-14**]  05:47 AM
                             [**2195-3-15**]  03:16 AM
                             [**2195-3-15**]  03:47 AM
                             [**2195-3-16**]  03:31 AM
                             [**2195-3-16**]  09:55 AM
                             [**2195-3-16**]  04:29 PM
                             [**2195-3-16**]  08:44 PM
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
                             [**2195-3-17**]  09:35 AM
   WBC
   8.6
   9.6
   11.6
   14.3
   13.9
   Hct
   32.3
   34.3
   28.2
   25.5
   29
   26.8
   28.2
   27.0
   Plt
   [**Telephone/Fax (3) 6334**]71
   375
   Cr
   0.8
   0.8
   0.9
   1.0
   0.9
   TCO2
   35
   39
   35
   Glucose
   147
   186
   201
   125
   159
   141
   Other labs: PT / PTT / INR:15.5/28.8/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. Resp: Suspect VAP, GPCs and GNR in sputum
   -vanco/zosyn/cipro
   -check RISB again, secretions OK, has good cough
   -plan to extubate with anesthesia here as will need C collar in place
   2. Groin bleed:
   restart 1100 units/h
   -adjust scale to be more conservative
   -guiac stool
   3. AMS: More alert, not following commands, not moving L side
   -f/u evoked potentials
   -cont. C collar
   4. afib: cont. amio
   -restart heparin gtt
   -PTT goal 50-70
   -TFTs baseline
   5. FEN: hold TF for extubation
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM
   Arterial Line - [**2195-3-16**] 06:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and agree with Dr. [**First Name (STitle) 2721**]
s note as outlined
   above. 69 yo male with groin hematoma, hx DT
s, acute respiratory
   failure. For acute blood loss anemia and expanding hematoma on CT he
   underwent evacuation yesterday, though no active bleeding seen. Hct
   have since remained unchanged and am restarting heparin gtt today given
   risks of not being anticoagulated with a prosthetic valve. Became
   tachypneic and febrile this morning- not extubated with possible
   development of VAP.  Mental status remains a barrier to extubation.
   Continuing ventilator support, will re-assess readiness of extubation
   tomorrow but he may require trach if unable to come off the vent soon.
   Pt critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-17**] 18:39 ------

2195-03-18 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Groin hematoma / alcohol withdrawal
   24 Hour Events:
 WOUND CULTURE - At [**2195-3-17**] 04:49 PM
   fluid from JP drain sent for cx.
 FEVER - 101.4
F - [**2195-3-17**] 04:00 PM
   - Restarted heparin gtt
   - Evoked potentials: read pending
   - Groin stable
   - TSH 6.8, T4 1.0
   - Hct remained stable
   - NuSu: keep in collar until clinically cleared
   - PM RSBI 130
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2195-3-15**] 03:00 PM
   Vancomycin - [**2195-3-17**] 09:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-18**] 12:00 AM
   Ciprofloxacin - [**2195-3-18**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO, Tube feeds
   Gastrointestinal: Constipation
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2195-3-18**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 81 (80 - 94) bpm
   BP: 130/44(65) {111/44(65) - 130/75(82)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,603 mL
                                                                    927 mL
   PO:
             TF:
                                                                  1,077 mL
                                                                    573 mL
   IVF:
                                                                  1,096 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,177 mL
                                                                    400 mL
   Urine:
                                                                  2,122 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                    426 mL
                                                                    527 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 503 (340 - 503) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///35/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, eccymoses
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   387 K/uL
   9.1 g/dL
   182 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.2 mEq/L
   43 mg/dL
   101 mEq/L
   141 mEq/L
   25.7 %
   15.2 K/uL
        [image002.jpg]
                             [**2195-3-16**]  03:31 AM
                             [**2195-3-16**]  09:55 AM
                             [**2195-3-16**]  04:29 PM
                             [**2195-3-16**]  08:44 PM
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
                             [**2195-3-17**]  09:35 AM
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
   WBC
   11.6
   14.3
   13.9
   15.2
   Hct
   28.2
   25.5
   29
   26.8
   28.2
   27.0
   27.1
   26.5
   25.7
   Plt
   [**Telephone/Fax (3) 6352**]87
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   39
   35
   Glucose
   [**Telephone/Fax (3) 6353**]41
   182
   Other labs: PT / PTT / INR:14.6/31.2/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   MICROBIOLOGY
RESPIRATORY CULTURE (Final [**2195-3-17**]):
      10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    ~1000/ML.
         Isolates are considered potential pathogens in amounts >=10,000
         cfu/ml.
   IMAGING
   Chest X-ray [**3-17**]
   IMPRESSION:
   1. ET tube 5.5 cm from the carina.
   2. Unchanged consolidation of the left lower lobe and small left
   pleural effusion.
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a fib, admitted for PVI
   ablation by EP now with course complicated by left groin hematoma and
   DTs, and now fluctuating mental status and extremity weakness.
   #  Acute HCT Drop
 CT scan w/o RP bleed or abd bleed. Unclear source
   of bleeding, no BMs.  [**3-16**] Went to OR, no active extravasation just
   liquefied hematoma, per vasc OK to restart heparin [**3-17**] if stable Hct.
   -          transfuse for HCT <27, today 25.7 so will transfuse 1u PRBC
   -          Heparin gtt
   -          EP aware
   -          Guaiac all stools, will increase bowel regimen today
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.  HCt had been stable, transfused [**3-9**] with
   new acute HCT loss [**3-15**].  Now with slowly droping Hct of unclear
   source.
   -  q 8 Hcts
   -  Transfuse to keep hct > 27
   - Vascular to pull drain today
   # Mental status change/weakness: Nonfocal exam. MRI brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s: c-collar, L arm flaccid
   - Evoked potentials obtained, follow-up results
   # Fever: Probable PNA on CXR, concerning for VAP. Sputum with GPCs and
   GNRs
   - f/u culture data
   - Started Vanc/zosyn/cipro on [**3-15**]
   - f/u TTE: no veg seen but suboptimal
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory Failure:  Intubated as patient was considered a danger to
   self given agitation during sheath pull.
   - RSBI >105,  considered extubation [**3-17**] but then worsened, likely will
   need trach
   - Contact IP for trach
   - Now with likely HAP & will cont abx
    #  Afib: s/p PVI ablation.  Appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - heparin gtt goal 50-70, monitor HCT
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN:  TF, increase bowel regimen, replete K
   #. PPx:  Pneumoboots, PPI, aggressive bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM & 22 g

2195-03-18 11:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct trended slightly down. Neurosurg rec we cont. C collar until can be
   clinically cleared.
 EEG - At [**2195-3-17**] 08:44 AM
   Evoked potential EEG.
 ARTERIAL LINE - STOP [**2195-3-17**] 12:00 PM
   placed in OR.
 BLOOD CULTURED - At [**2195-3-17**] 02:43 PM
 URINE CULTURE - At [**2195-3-17**] 02:43 PM
 WOUND CULTURE - At [**2195-3-17**] 04:49 PM
   fluid from JP drain sent for cx.
 FEVER - 101.4
F - [**2195-3-17**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2195-3-15**] 03:00 PM
   Ciprofloxacin - [**2195-3-18**] 02:00 AM
   Vancomycin - [**2195-3-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-18**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-18**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 88 (80 - 94) bpm
   BP: 127/67(83) {111/44(65) - 130/75(83)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
           Total In:
                                                                  2,603 mL
                                                                  1,880 mL
   PO:
           TF:
                                                                  1,077 mL
                                                                    828 mL
   IVF:
                                                                  1,096 mL
                                                                    643 mL
   Blood products:
   79 mL
   Total out:
                                                                  2,177 mL
                                                                  1,450 mL
   Urine:
                                                                  2,122 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
                                                                     55 mL
   Balance:
                                                                    426 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 503 (430 - 503) mL
   PS : 8 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 116
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   387 K/uL
   182 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.2 mEq/L
   43 mg/dL
   101 mEq/L
   141 mEq/L
   25.7 %
   15.2 K/uL
        [image002.jpg]
                             [**2195-3-16**]  03:31 AM
                             [**2195-3-16**]  09:55 AM
                             [**2195-3-16**]  04:29 PM
                             [**2195-3-16**]  08:44 PM
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
                             [**2195-3-17**]  09:35 AM
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
   WBC
   11.6
   14.3
   13.9
   15.2
   Hct
   28.2
   25.5
   29
   26.8
   28.2
   27.0
   27.1
   26.5
   25.7
   Plt
   [**Telephone/Fax (3) 6352**]87
   Cr
   0.9
   1.0
   0.9
   0.9
   TCO2
   39
   35
   Glucose
   [**Telephone/Fax (3) 6353**]41
   182
   Other labs: PT / PTT / INR:14.6/31.2/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. Anemia: Hct trending down on heparin
   -guiac neg
   -cont. heparin for now, tx for hct <25
   2. Resp failure: Still not following commands, RISB 120
   -cont. vanc/cipro/zosyn since [**3-15**]
   -consult IP for trach
   3. Neuro:
   -Follow up evoked potentials and NSG recs
   -cont. C collar until can clear clinically
   -follow MS
   4. CV: AVR and afib
   -heparin gtt PTT 50-70 goal
   -cont. amio
   5. FEN: hold TF in case of trach
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-18**] 02:14 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I would add the following: 69 yo
   male with afib and [**First Name8 (NamePattern2) **] [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] valve admitted for pulm vein ablation
   complicated by DT
s/groin sheath hematoma with subsequent respiratory
   failure and Staph PNA. MS has been slow to recover with decreased left
   UE/LE mov
t; neuro imaging has not revealed a reason for the AMS but
   did disclose cervical stenosis.
   Febrile over the past 2 days with increasing leukocytosis and WBC up to
   15, RSBI
s 120
s-30
s this morning, pt opens eyes spontaneously but
   does not track or consistently follow commands.
   Imp:
   Acute respiratory failure
   AMS- suspect from previous heavy sedation with Bdz
s with lack of an
   obvious alternate etiology by Neuro consult/imaging
   Anemia- lower this morning after heparin restarted, though no obvious
   further bleeding
   Fevers: possibly pulm with worsening RSBI
   Cervical stenosis, evoked potentials pending
   . With pt
s poor MS [**First Name (Titles) **] [**Last Name (Titles) 6355**] RSBI
s, currently not appropriate for
   extubation. MS has not significantly changed over the past several days
   and as such, will have pt evaluated for trach.
   Pt is critically ill. Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-18**] 12:22 ------

2195-03-19 08:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Withdrawal / PVI ablation
   [**09**] Hour Events:
   - transfused 1 u pRBCs
   - neurosurg said they cannot clear neck for IP placement of trach, will
   need open procedure, recommend trauma surgery because they are most
   likely to be conformtable doing a procedure with a C-collar involved
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-18**] 02:00 AM
   Vancomycin - [**2195-3-19**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-19**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Psychiatric / Sleep: Daytime somnolence
   Flowsheet Data as of  [**2195-3-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (71 - 88) bpm
   BP: 115/62(74) {101/55(66) - 132/69(83)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
           Total In:
                                                                  3,930 mL
                                                                  1,126 mL
   PO:
           TF:
                                                                  1,801 mL
                                                                    265 mL
   IVF:
                                                                  1,221 mL
                                                                    481 mL
   Blood products:
                                                                    278 mL
                                                                    160 mL
   Total out:
                                                                  2,525 mL
                                                                    540 mL
   Urine:
                                                                  2,485 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  1,405 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (334 - 477) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   9.6 g/dL
   120 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   38 mg/dL
   103 mEq/L
   146 mEq/L
   26.8 %
   13.4 K/uL
        [image002.jpg]
                             [**2195-3-16**]  08:44 PM
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
                             [**2195-3-17**]  09:35 AM
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
                             [**2195-3-18**]  03:00 PM
                             [**2195-3-18**]  10:25 PM
                             [**2195-3-19**]  04:31 AM
   WBC
   14.3
   13.9
   15.2
   13.4
   Hct
   26.8
   28.2
   27.0
   27.1
   26.5
   25.7
   27.2
   29.2
   26.8
   Plt
   371
   375
   387
   383
   Cr
   1.0
   0.9
   0.9
   0.8
   TCO2
   35
   Glucose
   159
   141
   182
   120
   Other labs: PT / PTT / INR:15.7/64.9/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a fib, admitted for PVI
   ablation by EP now with course complicated by left groin hematoma and
   DTs, and now fluctuating mental status and extremity weakness.
   #  Acute HCT Drop
 CT scan w/o RP bleed or abd bleed. Unclear source
   of bleeding, no BMs.  [**3-16**] Went to OR, no active extravasation just
   liquefied hematoma, per vasc OK to restart heparin [**3-17**] if stable Hct.
   -          transfuse for HCT <27, today 25.7 so will transfuse 1u PRBC
   -          Heparin gtt
   -          EP aware
   -          Guaiac all stools, will increase bowel regimen today
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.  HCt had been stable, transfused [**3-9**] with
   new acute HCT loss [**3-15**].  Now with slowly droping Hct of unclear
   source.
   -  q 8 Hcts
   -  Transfuse to keep hct > 27
   - Vascular to pull drain today
   # Mental status change/weakness: Nonfocal exam. MRI brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s: c-collar, L arm flaccid
   - Evoked potentials obtained, follow-up results
   # Fever: Probable PNA on CXR, concerning for VAP. Sputum with GPCs and
   GNRs
   - f/u culture data
   - Started Vanc/zosyn/cipro on [**3-15**]
   - f/u TTE: no veg seen but suboptimal
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory Failure:  Intubated as patient was considered a danger to
   self given agitation during sheath pull.
   - RSBI >105,  considered extubation [**3-17**] but then worsened, likely will
   need trach
   - Contact IP for trach
   - Now with likely HAP & will cont abx
    #  Afib: s/p PVI ablation.  Appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - heparin gtt goal 50-70, monitor HCT
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN:  TF, increase bowel regimen, replete K
   #. PPx:  Pneumoboots, PPI, aggressive bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM & 22 g
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-19**] 04:30 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-19 11:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused 1 U PRBCs overnight for hct 25, bumped to 29. RISB is 90.
   Trauma surgery called for trach given NSG rec no neck extension.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-18**] 02:00 AM
   Vancomycin - [**2195-3-19**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-19**] 08:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-19**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-19**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 71 (71 - 86) bpm
   BP: 114/62(76) {101/55(66) - 132/84(93)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
           Total In:
                                                                  3,930 mL
                                                                  1,660 mL
   PO:
           TF:
                                                                  1,801 mL
                                                                    515 mL
   IVF:
                                                                  1,221 mL
                                                                    575 mL
   Blood products:
                                                                    278 mL
                                                                    350 mL
   Total out:
                                                                  2,525 mL
                                                                  1,190 mL
   Urine:
                                                                  2,485 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
   Balance:
                                                                  1,405 mL
                                                                    470 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 419 (334 - 477) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   383 K/uL
   120 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   38 mg/dL
   103 mEq/L
   146 mEq/L
   28.5 %
   13.4 K/uL
        [image002.jpg]
                             [**2195-3-17**]  01:00 AM
                             [**2195-3-17**]  01:02 AM
                             [**2195-3-17**]  09:35 AM
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
                             [**2195-3-18**]  03:00 PM
                             [**2195-3-18**]  10:25 PM
                             [**2195-3-19**]  04:31 AM
                             [**2195-3-19**]  10:32 AM
   WBC
   13.9
   15.2
   13.4
   Hct
   28.2
   27.0
   27.1
   26.5
   25.7
   27.2
   29.2
   26.8
   28.5
   Plt
   375
   387
   383
   Cr
   0.9
   0.9
   0.8
   TCO2
   35
   Glucose
   141
   182
   120
   Other labs: PT / PTT / INR:15.7/64.9/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   1. resp failure: [**2-2**] AMS and secretions which have both improved
   somewhat
   -d/c propofol and check RISB, hold TF
   -possible extubation today
   -vanco/zosyn for possible VAP
   2. Anemia: Groin appears unchanged, responded to 1U PRBCs
   -follow hct
   3. afib/AVR: heparin gtt at goal 50-70
   -cont. amio
   4. FEN: hold TF
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-19**] 04:30 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-19**] 08:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with Dr. [**First Name (STitle) 2721**] for the key
   portions of the services provided. I agree with her note above, and
   would add the following: 69 yo male with afib admitted for pulm
   v.isolation, with post-procedure course complicated by agitation/DT
   groin sheath hematoma, acute respiratory failure. He has have marginal
   mental status with negative head CT and MRI.  Evaluated for potential
   trach yesterday, but technical difficulties due to the inability to
   remove C-collar. RSBI
s reasonable enough today and he was instead
   extubated. He continues not to follow any commands, but appears
   comfortable with clear breath sounds. Hct intermittently down on
   heparin gtt- no obvious source. Continue close monitoring and complete
   a 7 day course for presumed VAP.
   Pt is critically ill.
   Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-19**] 19:01 ------

2195-03-20 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-3-19**] 02:33 PM
   - Extubated mid-afternoon; still poor cough requiring frequent
   suctioning
   - Hct trended and stable
   - Trauma surgery: will pull JP Friday
   - TF held for extubation / poor cough; consider restarting Friday AM
   - Continued reddish urine output, Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Vancomycin - [**2195-3-19**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-19**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-20**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (70 - 94) bpm
   BP: 110/63(75) {104/62(72) - 141/100(106)} mmHg
   RR: 25 (20 - 37) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,310 mL
                                                                    282 mL
   PO:
             TF:
                                                                    513 mL
   IVF:
                                                                  1,198 mL
                                                                    282 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,940 mL
                                                                    460 mL
   Urine:
                                                                  1,900 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     10 mL
   Balance:
                                                                    370 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (378 - 378) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   SpO2: 100%
   ABG: ///34/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), click
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, eccymosis over LLE proximally
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   455 K/uL
   10.7 g/dL
   123 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.5 mEq/L
   36 mg/dL
   100 mEq/L
   143 mEq/L
   31.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
                             [**2195-3-18**]  03:00 PM
                             [**2195-3-18**]  10:25 PM
                             [**2195-3-19**]  04:31 AM
                             [**2195-3-19**]  10:32 AM
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
   WBC
   15.2
   13.4
   14.4
   Hct
   27.1
   26.5
   25.7
   27.2
   29.2
   26.8
   28.5
   30.8
   30.9
   31.4
   Plt
   387
   383
   455
   Cr
   0.9
   0.8
   0.7
   Glucose
   182
   120
   123
   Other labs: PT / PTT / INR:15.6/68.3/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:2.0 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**3-18**] sputum cx: ? OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   [**3-15**] mini BAL: 10,000-100,000 ORGANISMS/ML. OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    ~1000/ML.
            Isolates are considered potential pathogens in amounts
   >=10,000
            cfu/ml.
   [**3-17**] JP drain: 2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR
   LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a fib, admitted for PVI
   ablation by EP now with course complicated by left groin hematoma and
   DTs, and now fluctuating mental status and extremity weakness.
   #  Acute HCT Drop
 CT scan w/o RP bleed or abd bleed. Unclear source
   of bleeding, no BMs.  [**3-16**] Went to OR, no active extravasation just
   liquefied hematoma, per vasc OK to restart heparin [**3-17**] if stable Hct.
   -          transfuse for HCT <27
   -          Heparin gtt
   -          EP aware
   -          Guaiac all stools, will increase bowel regimen today
    # Groin hematoma:  s/p traumatic sheath pull in the setting of
   agitation.   Repeat imaging without significant interval change.  Groin
   u/s without pseudoaneurysm.  HCt had been stable, transfused [**3-9**] with
   new acute HCT loss [**3-15**].  Now with slowly droping Hct of unclear
   source.
   -  q 8 Hcts
   -  Transfuse to keep hct > 27
   - Vascular to pull drain today
   # Mental status change/weakness: Nonfocal exam. MRI brain done and no
   acute findings.
   - Change Thiamine to IV from PO, add B12
   - Neuro c/s: c-collar, L arm flaccid
   - Evoked potentials obtained, sensation intact
   # Fever: Probable PNA on CXR, concerning for VAP. Sputum with GPCs and
   GNRs
   - f/u culture data
   - Started Vanc/zosyn/cipro on [**3-15**]
   - f/u TTE: no veg seen but suboptimal
   # Alcohol withdrawal / Tremulousness: Patient was noted to be
   withdrawing post procedure while his lines were pulled. Per wife,
   drinks up to 10 drinks per day.   He was intubated in the setting of
   agitation.   He has required high doses of Valium q1 hours per CIWA
   scale.  On [**3-9**] obtained head CT given that timeline for DTs is a bit
   off.  CT head without an acute process.
   - MVI, thiamine, folate
   # Respiratory Failure:  Intubated as patient was considered a danger to
   self given agitation during sheath pull.  Now successfully exrtubated.
   - Keep HOB elevated
   - Pulmonary toilet
    #  Afib: s/p PVI ablation.  Appreciate EP recs
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin
   - bridge to Coumadin starting [**3-16**], goal INR 2.5-3.5.
   - heparin gtt goal 50-70, monitor HCT
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   #. FEN:  TF hold for extubation, increase bowel regimen, replete K; if
   doing well today from resp standpoint likely restart TF (check CXR to
   ensure NGT is in proper position)
   #. PPx:  Pneumoboots, PPI, aggressive bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   Lines:
   18 Gauge - [**2195-3-16**] 10:00 AM & 22 g
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-20 11:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday. Still requiring frequent suctioning.
 INVASIVE VENTILATION - STOP [**2195-3-19**] 02:33 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Vancomycin - [**2195-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-20**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 76 (72 - 94) bpm
   BP: 111/67(78) {108/60(72) - 141/100(106)} mmHg
   RR: 25 (20 - 37) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 86.9 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,310 mL
                                                                    748 mL
   PO:
             TF:
                                                                    513 mL
   IVF:
                                                                  1,198 mL
                                                                    658 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,940 mL
                                                                  1,540 mL
   Urine:
                                                                  1,900 mL
                                                                  1,530 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                     10 mL
   Balance:
                                                                    370 mL
                                                                   -792 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Gen: NAD, alert, not following all commands, nonverbal
   HEENT: mmm
   CV: RRR no m/r/g
   pulm: few basilar crackles
   abd: s/nt/nd +BS
   ext: 2+ edema, warm, groin soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   455 K/uL
   123 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.5 mEq/L
   36 mg/dL
   100 mEq/L
   143 mEq/L
   31.4 %
   14.4 K/uL
        [image002.jpg]
                             [**2195-3-17**]  02:21 PM
                             [**2195-3-17**]  10:59 PM
                             [**2195-3-18**]  05:40 AM
                             [**2195-3-18**]  03:00 PM
                             [**2195-3-18**]  10:25 PM
                             [**2195-3-19**]  04:31 AM
                             [**2195-3-19**]  10:32 AM
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
   WBC
   15.2
   13.4
   14.4
   Hct
   27.1
   26.5
   25.7
   27.2
   29.2
   26.8
   28.5
   30.8
   30.9
   31.4
   Plt
   387
   383
   455
   Cr
   0.9
   0.8
   0.7
   Glucose
   182
   120
   123
   Other labs: PT / PTT / INR:15.6/68.3/1.4, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. Resp: Now stable, able to cough
   -narrow to ceftriaxone given sputum with enterobacter
   2. Groin hematoma: Stable exam, check pm hct to make sure no further
   bleeding
   3. AMS: Improving, but still unable to squeeze with L hand
   4. afib: Cont. amiodarone
   -heparin gtt
   5. FEN: Restart TF
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**First Name (STitle) 2721**]
s note above, and would add the following: 69 yo male with afib
   and [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] s/p pulmonary vein ablation complicated
   post-procedure by agitation & DT
s, acute respiratory failure (airway)
   and groin hematoma. Hospitalization has since been notable for probably
   VAP pna (Enterobacter), acute blood loss anemia/enlarging hematoma s/p
   evacuation, poor mental status. Extubated yesterday.
   Issues:
   1.       Altered mental status: he has undergone a head CT and head
   MRI, neuro evaluation that was unrevealing. This is presumed secondary
   to the large amount of sedation he initially required. There has been
   minimal change in his mental status this past week. Continuing to
   monitor, on thiamine.
   2.       Cervical spondylosis: pt was noted to be moving the left side
   of his body less and has undergone a C-spine MRI that demonstrated
   cervical narrowing at C3-4 & C4-5. Followed by neurosurgery,
   somatosensory evoked potentials negative though this doesn
t address
   possible motor deficits. No acute intervention currently indicated, but
   unable to remove the C-collar until pt is alert enough to be clinically
   cleared.
   3.       Acute respiratory failure: pt now extubated, suctioning as
   needed.
   4.       presumed VAP PNA- growing Enterobacter from sputum cultures,
   on CTX
   5.       s/p groin evacuation/ [**First Name8 (NamePattern2) **] [**Male First Name (un) **]
s and afib on heparin
   anticoagulation- most recent hct has been unchanged, but still concern
   for bleeding as left groin dressings have been bloody today. Holding
   pressure and will need to re-check hct
   Given potential for acute blood loss anemia in the setting of systemic
   anticoagulation, will keep in the ICU for now.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-20**] 05:02 PM ------

2195-03-21 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - JP drain pulled, had oozing from groin, eventually stopped with
   pressure dressing and holding heparin gtt for 3 hrs, then restarting
   - Hct stable (~31)
   - EP results still pending
   - Sputum cx: Enterobacter aerogenes, sparse growth, sensitive to
   ceftriaxone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Vancomycin - [**2195-3-20**] 08:00 AM
   Ceftriaxone - [**2195-3-20**] 12:30 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-3-20**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-21**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 81 (76 - 92) bpm
   BP: 119/61(74) {107/21(55) - 149/90(101)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,221 mL
                                                                    650 mL
   PO:
             TF:
                                                                    194 mL
                                                                    279 mL
   IVF:
                                                                  1,907 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    280 mL
   Urine:
                                                                  2,140 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                     71 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), click
   Peripheral Vascular:  2+ DP & PT bilaterally
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, eccymosis over LLE proximally
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   442 K/uL
   11.3 g/dL
   131 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.3 mEq/L
   33 mg/dL
   101 mEq/L
   142 mEq/L
   32.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2195-3-18**]  10:25 PM
                             [**2195-3-19**]  04:31 AM
                             [**2195-3-19**]  10:32 AM
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
   WBC
   13.4
   14.4
   12.4
   Hct
   29.2
   26.8
   28.5
   30.8
   30.9
   31.4
   31.0
   31.0
   31.2
   32.7
   Plt
   383
   455
   442
   Cr
   0.8
   0.7
   0.7
   Glucose
   120
   123
   131
   Other labs: PT / PTT / INR:15.1/58.4/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   69 year old man with mechanical heart [**Year (4 digits) 5492**] and a-fib, admitted for PVI
   ablation, with post-ablation course complicated by left groin hematoma
   and DTs, and now with fluctuating mental status and extremity weakness.
    # Groin hematoma:  s/p traumatic L groin sheath pull in the setting of
   agitation. Groin u/s without pseudoaneurysm. S/p 7 units of pRBCs and 1
   bag of platelets. Went to OR on [**3-16**], found to have no active
   extravasation, just liquefied hematoma. JP drain pulled [**2195-3-20**]. Hct
   has been stable. Back on heparin gtt for mechanical [**Month/Day/Year 5492**].
   - pm Hct
   - transfuse to keep hct > 27
   - f/u vascular surgery recs
   # Altered mental status/weakness/alcohol withdrawal: more responsive
   than yesterday, moving both arms and R leg spontaneously. MRI brain
   unremarkable.  Most likely metabolic encephalopathy and alcohol
   withdrawal. Was intubated in the setting of agitation and DT after
   ablation study. Ten drinks/day at home.
   - continue thiamine PO, B12, folate
   - continue c-collar
   - continue CIWA
   # Probably pna: with recent fever, CXR with probable infiltrate. Sputum
   with Enterobacter. Was on vanco, pip-tazo, and cipro from [**3-15**] to [**3-20**],
   when abx were changed to ceftriaxone.
   - f/u culture data
   - continue ceftriaxone for now
   # Recent respiratory failure: now extubated. Was intubated as patient
   was considered a danger to self given agitation during sheath pull.
   - Keep HOB elevated
   - Pulmonary toilet
    #  Afib: s/p PVI ablation.
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin.
   - continue heparin gtt with goal PTT 50-70
   - monitor Hct
   - no warfarin yet until Hct stable
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   # FEN:  TF
   #. PPx:  Pneumoboots, PPI, bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-20**] 02:18 PM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-21 11:02:00 Physician Attending Progress Note
HPI:
   Admitted for afib ablation; course complicated by ETOH withdrawal
   24 Hour Events:
   Afebrile since yesterday, hemodynamically stable, HCT stable.
   No significant clinical change.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Vancomycin - [**2195-3-20**] 08:00 AM
   Ceftriaxone - [**2195-3-20**] 12:30 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-21**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-21**] 08:00 AM
   Other medications:
   Rosuvastatin
   MVI
   Amiodarone 200mg [**Hospital1 **]
   Insulin sliding scale
   Lactulose 30 [**Hospital1 **]
   Lasix 40 IV daily
   Ceftriaxone 1gm q24
   Thiamine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-21**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36
C (96.8
   HR: 89 (75 - 92) bpm
   BP: 122/59(74) {89/21(55) - 149/90(101)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,221 mL
                                                                    933 mL
   PO:
             TF:
                                                                    194 mL
                                                                    414 mL
   IVF:
                                                                  1,907 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    940 mL
   Urine:
                                                                  2,140 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
                                                                     10 mL
   Balance:
                                                                     71 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Gen: chronically ill appearing. He responds to voice, attempts to
   answer questions unsuccessfully and difficulty following simple
   commands.
   Chest: clear lungs
   CV: RRR, mechanical heart sounds
   Abd: s/nt/nd
   Ext: no edema/cyanosis
   Labs / Radiology
   11.3 g/dL
   442 K/uL
   131 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.3 mEq/L
   33 mg/dL
   101 mEq/L
   142 mEq/L
   33.3 %
   12.4 K/uL
         [image002.jpg]
                             [**2195-3-19**]  04:31 AM
                             [**2195-3-19**]  10:32 AM
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
   WBC
   13.4
   14.4
   12.4
   Hct
   26.8
   28.5
   30.8
   30.9
   31.4
   31.0
   31.0
   31.2
   32.7
   33.3
   Plt
   383
   455
   442
   Cr
   0.8
   0.7
   0.7
   Glucose
   120
   123
   131
   Other labs: PT / PTT / INR:15.1/74.3/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   69M admitted for afib ablation, complicated by intubation in setting of
   obtundation with ETOH withdrawal. Now extubated with gradually
   improving mental status.
   1.       Mental status
 persistent toxic-metabolic encephalopathy
   likely from benzos for his ETOH withdrawal.  Has been evaluated with
   MRI and head CT without abnormality.
   2.       ID: PNA with enterobacter; now tailored to ceftriaxone given
   sensitivities. Afebrile and overall stable.
    - Continue ceftriaxone for 8 days total of antibiotics for
   enterobacter VAP PNA
   3.       Thigh hematoma: secondary to traumatic removal of sheath
   post-ablation. Had increased bleeding post-JP drain removal yesterday.
   Now resolved.  HCT stable.
    - repeat HCT this afternoon
   4.       Cardiac
 pump: mechanical valve
    - heparin for mechanical valve
   5.       Cardiac
 rhythm: afib s/p ablation
    - continue amiodarone for rhythm control
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-20**] 02:18 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT:  on therapeutic heparin
   Stress ulcer:  PPI
   Code status: Full code
   Disposition : Full Code
   Total time spent:  30 minutes
   ------ Protected Section ------
   I was physically present with the housestaff on this date and performed
   an independent examination of the patient.  I would fully agree with
   the plan as defined above.
     ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
                         on:[**2195-3-21**] 14:54 ------

2195-03-22 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2195-3-22**] 12:07 AM
 URINE CULTURE - At [**2195-3-22**] 02:01 AM
 FEVER - 101.1
F - [**2195-3-22**] 12:00 AM
   - spiked to 101.1, switched ceftriaxone to cefepime given concern for
   developing resistance after 4 days given sensitivities
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Vancomycin - [**2195-3-20**] 08:00 AM
   Ceftriaxone - [**2195-3-21**] 12:00 PM
   Cefipime - [**2195-3-22**] 03:58 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-21**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-21**] 08:00 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: coagulapathic, anemia
   Flowsheet Data as of  [**2195-3-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 88 (75 - 100) bpm
   BP: 138/64(82) {105/57(69) - 145/75(95)} mmHg
   RR: 30 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,312 mL
                                                                    865 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    537 mL
   IVF:
                                                                    483 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,658 mL
                                                                    383 mL
   Urine:
                                                                  1,658 mL
                                                                    383 mL
   Balance:
                                                                    654 mL
                                                                    482 mL
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   485 K/uL
   10.6 g/dL
   147 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   33 mg/dL
   106 mEq/L
   142 mEq/L
   30.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
   WBC
   14.4
   12.4
   13.4
   Hct
   30.8
   30.9
   31.4
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   Plt
   455
   442
   485
   Cr
   0.7
   0.7
   0.7
   Glucose
   123
   131
   147
   Other labs: PT / PTT / INR:15.1/62.6/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a-fib, admitted for PVI
   ablation, with post-ablation course complicated by left groin hematoma
   and DTs, and now with fluctuating mental status and extremity weakness.
    # Groin hematoma:  s/p traumatic L groin sheath pull in the setting of
   agitation. Groin u/s without pseudoaneurysm. S/p 7 units of pRBCs and 1
   bag of platelets. Went to OR on [**3-16**], found to have no active
   extravasation, just liquefied hematoma. JP drain pulled [**2195-3-20**]. Hct
   has been stable. Back on heparin gtt for mechanical [**Month/Day/Year 5492**].
   - pm Hct
   - transfuse to keep hct > 27
   - f/u vascular surgery recs
   # Altered mental status/weakness/alcohol withdrawal: more responsive
   than yesterday, moving both arms and R leg spontaneously. MRI brain
   unremarkable.  Most likely metabolic encephalopathy and alcohol
   withdrawal. Was intubated in the setting of agitation and DT after
   ablation study. Ten drinks/day at home.
   - continue thiamine PO, B12, folate
   - continue c-collar
   - continue CIWA
   # Probably pna: with recent fever, CXR with probable infiltrate. Sputum
   with Enterobacter. Was on vanco, pip-tazo, and cipro from [**3-15**] to [**3-20**],
   when abx were changed to ceftriaxone.
   - f/u culture data
   - continue ceftriaxone for now (spoke with ID and think F [**3-21**] likey
   [**2-2**] to other source rather than Ab resistance)
   # Recent respiratory failure: now extubated. Was intubated as patient
   was considered a danger to self given agitation during sheath pull.
   - Keep HOB elevated
   - Pulmonary toilet
    #  Afib: s/p PVI ablation.
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin.
   - continue heparin gtt with goal PTT 50-70
   - monitor Hct
   - no warfarin yet until Hct stable
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   # FEN:  TF
   #. PPx:  Pneumoboots, PPI, bowel regimen
   #. Code: Full Code
   #. Dispo: ICU for now
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-22**] 06:08 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2195-03-22 10:39:00 Physician Attending Progress Note
24 Hour Events:
   Febrile overnight; repeat cultures.  Otherwise stable.  Changed from
   ceftriaxone to cefepime; but following discussion with ID is now back
   on ceftriaxone.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-3-19**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Vancomycin - [**2195-3-20**] 08:00 AM
   Ceftriaxone - [**2195-3-21**] 12:00 PM
   Cefipime - [**2195-3-22**] 03:58 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-22**] 07:46 AM
   Furosemide (Lasix) - [**2195-3-22**] 07:47 AM
   Other medications:
   Thiamine 100mg daily
   Lasix 40mg daily IV
   Lactulose
   Heparin drip
   Insulin sliding scale
   Amiodarone 200mg [**Hospital1 **]
   MVI
   Folic Acid
   Rosuvastatin
   Changes to medical and family history:
   No change since admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-22**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 97 (80 - 100) bpm
   BP: 155/91(103) {105/57(69) - 155/91(103)} mmHg
   RR: 26 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,312 mL
                                                                  1,295 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    780 mL
   IVF:
                                                                    483 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                  1,658 mL
                                                                  1,243 mL
   Urine:
                                                                  1,658 mL
                                                                  1,243 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    654 mL
                                                                     52 mL
   Respiratory support
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin, not acutely ill appearing
   Chest: Scant crackles at bilateral bases
   CV: RRR; mechanical valve
   Abd: s/nt/nd
   Ext: warm/well-perfused; minimal edema
   Labs / Radiology
   10.6 g/dL
   485 K/uL
   147 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   33 mg/dL
   106 mEq/L
   142 mEq/L
   30.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2195-3-19**]  04:54 PM
                             [**2195-3-19**]  10:13 PM
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
   WBC
   14.4
   12.4
   13.4
   Hct
   30.8
   30.9
   31.4
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   Plt
   455
   442
   485
   Cr
   0.7
   0.7
   0.7
   Glucose
   123
   131
   147
   Other labs: PT / PTT / INR:15.1/89.7/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69M admitted for afib ablation, complicated by intubation in setting of
   obtundation with ETOH withdrawal. Now extubated with gradually
   improving mental status.
   1.       Mental status
 persistent toxic-metabolic encephalopathy
   likely from benzos for his ETOH withdrawal and PNA.  Has been evaluated
   with MRI and head CT without abnormality.
    - continue to follow mental status for improvement
   2.       ID: PNA with enterobacter; now tailored to ceftriaxone given
   sensitivities. Afebrile and overall stable.
    - Plan ceftriaxone for 8 days.
   3.       Thigh hematoma: secondary to traumatic removal of sheath
   post-ablation. Had increased bleeding post-JP drain removal yesterday.
   Now resolved.  HCT stable.
    - repeat HCT this afternoon
   4.       Cardiac
 pump: mechanical valve
    - heparin for mechanical valve; PTT is supratherapeutic, will decrease
   rate this morning.
   5.       Cardiac
 rhythm: afib s/p ablation
    - continue amiodarone for rhythm control
   6.  Neuro: needs to be clinically cleared from his c-collar
   ICU Care
   Nutrition:  Fibersource HN (Full) - [**2195-3-22**] 06:08 AM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-3-14**] 11:40 PM
   20 Gauge - [**2195-3-20**] 12:50 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-22**] 15:38 ------

2195-03-23 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Anemia / delirium tremens
   24 Hour Events:
   - Switched cefepime back to ceftriaxone per ID input, resistance
   unlikely
   - Modified heparin gtt so modifications would be less extreme to
   minimize fluctuations
   - Added Rifaximin for hepatic encephalopathy
 will d/c this AM
   - Ammonia level: 34 (normal)
   - Per Nursing, pt with continued small BM and appears to be trying to
   keep BM in (may be uncomfortable having BM in bed); increased lactulose
   dosing & wrote for soap suds enema x 1 --> large BM 11pm
   - Called out to floor but concern about nursing needs; held overnight
   - [**Hospital1 7**] Hct stable, plan to continue to check daily
   - Concern for insomnia; given Zydis 2.5mg po x 1
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-3-20**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2195-3-20**] 08:00 AM
   Cefipime - [**2195-3-22**] 03:58 AM
   Ceftriaxone - [**2195-3-22**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-22**] 07:46 AM
   Furosemide (Lasix) - [**2195-3-22**] 07:47 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Respiratory: Cough
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Integumentary (skin): thigh eccymoses
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2195-3-23**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 94 (85 - 97) bpm
   BP: 131/67(83) {112/51(71) - 155/91(103)} mmHg
   RR: 25 (20 - 33) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,829 mL
                                                                    675 mL
   PO:
             TF:
                                                                  1,790 mL
                                                                    573 mL
   IVF:
                                                                    689 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,033 mL
                                                                    290 mL
   Urine:
                                                                  2,033 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    796 mL
                                                                    385 mL
   Respiratory support
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed, ecchymoses
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   512 K/uL
   11.4 g/dL
   159 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   33 mg/dL
   107 mEq/L
   144 mEq/L
   34.8 %
   15.2 K/uL
        [image002.jpg]
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
                             [**2195-3-22**]  04:32 PM
                             [**2195-3-23**]  03:12 AM
   WBC
   14.4
   12.4
   13.4
   15.2
   Hct
   31.4
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   31.9
   34.8
   Plt
   455
   442
   485
   512
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   123
   131
   147
   159
   Other labs: PT / PTT / INR:14.8/60.1/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   [**3-22**] Blood cultures
[**2195-3-22**] 12:46 am BLOOD CULTURE      Source: Venipuncture.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a-fib, admitted for PVI
   ablation, with post-ablation course complicated by left groin hematoma
   and DTs, and now with fluctuating mental status and extremity weakness.
    # Groin hematoma:  s/p traumatic L groin sheath pull in the setting of
   agitation. Groin u/s without pseudoaneurysm. S/p 7 units of pRBCs and 1
   bag of platelets. Went to OR on [**3-16**], found to have no active
   extravasation, just liquefied hematoma. JP drain pulled [**2195-3-20**]. Hct
   has been stable. Back on heparin gtt for mechanical [**Month/Day/Year 5492**].  Vascular
   surgery aware, call with questions.
   - daily Hct
   - transfuse to keep hct > 21
   # Altered mental status/weakness/alcohol withdrawal: more responsive
   than yesterday, moving both arms and R leg spontaneously. MRI brain
   unremarkable.  Most likely metabolic encephalopathy and alcohol
   withdrawal. Was intubated in the setting of agitation and DT after
   ablation study. Ten drinks/day at home.  EEG, evoked potential
   unrevealing. No e/o seizure.
   - continue thiamine PO, B12, folate
   - continue c-collar
   - New bacteremia, treat as below
   - PT consult once improved mental status for functional decline
   - Lactulose bowel regimen (though ammonia nml [**3-22**])
   # Infection: with recent fever, CXR with probable infiltrate. Sputum
   with Enterobacter. Was on vanco, pip-tazo, and cipro from [**3-15**] to [**3-20**],
   when abx were changed to ceftriaxone.  New GPC on blood culture [**3-22**];
   previously grew MSSA in sputum.
   - f/u culture data; serial blood culture, C.diff, UCx
   - continue ceftriaxone for now (spoke with ID and think F [**3-21**] likey
   [**2-2**] to other source rather than Ab resistance)
   - Add Vancomycin
   - Obtain blood cultures today
   - Repeat echo to evaluate for vegetations
   # Recent respiratory failure: now extubated. Was intubated as patient
   was considered a danger to self given agitation during sheath pull.
   - Keep HOB elevated
   - Pulmonary toilet
    #  Afib: s/p PVI ablation.
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin.
   - continue heparin gtt with goal PTT 50-70
   - monitor Hct
   - no warfarin yet, but consider starting soon once bacteremia improves
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   # FEN:  TF / monitor & replete / euvolemic
   #. PPx:  Pneumoboots, PPI, bowel regimen
   #. Code: Full Code
   #. Dispo: Call out to floor today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-22**] 07:23 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-20**] 12:50 AM
   18 Gauge - [**2195-3-22**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-03-23 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Over the weekend not called out due to AMS. No further bleeding over
   weekend. Spiked a fever as well. BCx from yesterday has Coag pos GPCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2195-3-22**] 03:58 AM
   Ceftriaxone - [**2195-3-22**] 12:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-23**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-23**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 94 (85 - 97) bpm
   BP: 139/89(98) {112/51(71) - 155/91(103)} mmHg
   RR: 26 (20 - 33) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,831 mL
                                                                    947 mL
   PO:
             TF:
                                                                  1,793 mL
                                                                    729 mL
   IVF:
                                                                    689 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  2,033 mL
                                                                    350 mL
   Urine:
                                                                  2,033 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    597 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   512 K/uL
   159 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   33 mg/dL
   107 mEq/L
   144 mEq/L
   34.8 %
   15.2 K/uL
        [image002.jpg]
                             [**2195-3-20**]  04:21 AM
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
                             [**2195-3-22**]  04:32 PM
                             [**2195-3-23**]  03:12 AM
   WBC
   14.4
   12.4
   13.4
   15.2
   Hct
   31.4
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   31.9
   34.8
   Plt
   455
   442
   485
   512
   Cr
   0.7
   0.7
   0.7
   0.7
   Glucose
   123
   131
   147
   159
   Other labs: PT / PTT / INR:14.8/60.1/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:78.9 %, Lymph:8.4 %, Mono:9.9 %,
   Eos:2.2 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. GPC bacteremia:
   -check TTE for any evidence of endocarditis
   -no lines
   -resend sputum cx
   -cont. vanco/ceftriaxone until cx final
   2. Groin hematoma: hct recently stable
   -check daily hct
   -cont. heparin gtt
   3. AMS: Still unresolved
   -thiamine/folate
   -zyprexa for sleep
   -NH3 normal, getting lactulose, d/c rifaximin
   4. resp: stable extubated
   -check CXR given pos BCx
   -sputum cx
   5. FEN: TF at goal
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-23**] 08:35 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2195-3-20**] 12:50 AM
   18 Gauge - [**2195-3-22**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. 69 yo male with afib, s/p AVR
   admitted for pulm v isolation complicated post-procedure by DT
s/acute
   respiratory failure, groin sheath hematoma s/p evacuation. Extubated
   [**3-19**] and grimaces to pain/tracks to voice, though inconsistent with
   commands.  Mental status remains impaired
 am attributing to previous
   excess sedation with negative head CT and MRI. Hct has been unchanged,
   on heparin for chronic anticoagulation.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2195-3-23**] 12:10 ------

2195-03-24 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2195-3-23**] 01:33 PM
   - Blood cx x 2 with GPCs in pairs and clusters (2 sets) - Vanc started
   - TTE: Suboptimal image quality. Cannot exclude endocarditis on the
   basis of this study. Mild symmetric LVH. Depressed LV systolic
   function. Mild to moderate mitral regurgitation (likely UNDERestimated
   due to shadowing). Bileaflet aortic prosthesis with normal gradients.
   Dilated ascending aorta.
   - Daily HCTs
   - CXR: The NG tube tip is in the stomach. The mediastinal contours are
   stable.  Slight progression of left basal opacity is consistent with
   worsening of atelectasis and unlikely to represent pneumonia. Minimal
   right basal opacity has improved in the interim. The upper lungs are
   clear. There is no evidence of failure.
   - Cdiff: pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2195-3-22**] 03:58 AM
   Ceftriaxone - [**2195-3-23**] 12:00 PM
   Vancomycin - [**2195-3-23**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-23**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-24**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 93 (77 - 96) bpm
   BP: 141/65(83) {104/50(64) - 141/89(98)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,442 mL
                                                                    646 mL
   PO:
             TF:
                                                                  1,577 mL
                                                                    550 mL
   IVF:
                                                                    775 mL
                                                                     97 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    280 mL
   Urine:
                                                                  1,710 mL
                                                                    280 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    132 mL
                                                                    367 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Loud)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   519 K/uL
   11.3 g/dL
   127 mg/dL
   0.9 mg/dL
   21 mEq/L
   5.2 mEq/L
   35 mg/dL
   104 mEq/L
   141 mEq/L
   33.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
                             [**2195-3-22**]  04:32 PM
                             [**2195-3-23**]  03:12 AM
                             [**2195-3-24**]  04:00 AM
   WBC
   12.4
   13.4
   15.2
   13.5
   Hct
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   31.9
   34.8
   33.2
   Plt
   [**Telephone/Fax (3) 6488**]19
   Cr
   0.7
   0.7
   0.7
   0.9
   Glucose
   131
   147
   159
   127
   Other labs: PT / PTT / INR:14.9/70.5/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:82.4 %, Lymph:8.1 %, Mono:5.6 %,
   Eos:3.3 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   69 year old man with mechanical heart [**Doctor Last Name 5492**] and a-fib, admitted for PVI
   ablation, with post-ablation course complicated by left groin hematoma
   and DTs, and now with fluctuating mental status and extremity weakness.
    # Groin hematoma:  s/p traumatic L groin sheath pull in the setting of
   agitation. Groin u/s without pseudoaneurysm. S/p 7 units of pRBCs and 1
   bag of platelets. Went to OR on [**3-16**], found to have no active
   extravasation, just liquefied hematoma. JP drain pulled [**2195-3-20**]. Hct
   has been stable. Back on heparin gtt for mechanical [**Month/Day/Year 5492**].  Vascular
   surgery aware, call with questions.
   - daily Hct
   - transfuse to keep hct > 21
   # Altered mental status/weakness/alcohol withdrawal: more responsive
   than yesterday, moving both arms and R leg spontaneously. MRI brain
   unremarkable.  Most likely metabolic encephalopathy and alcohol
   withdrawal. Was intubated in the setting of agitation and DT after
   ablation study. Ten drinks/day at home.  EEG, evoked potential
   unrevealing. No e/o seizure.
   - continue thiamine PO, B12, folate
   - continue c-collar
   - New bacteremia, treat as below
   - PT consult once improved mental status for functional decline
   - Lactulose bowel regimen (though ammonia nml [**3-22**])
   # Infection: with recent fever, CXR with probable infiltrate. Sputum
   with Enterobacter. Was on vanco, pip-tazo, and cipro from [**3-15**] to [**3-20**],
   when abx were changed to ceftriaxone.  New GPC on blood culture [**3-22**];
   previously grew MSSA in sputum.
   - f/u culture data; serial blood culture, C.diff, UCx
   - continue ceftriaxone for now (spoke with ID and think F [**3-21**] likey
   [**2-2**] to other source rather than Ab resistance)
   - Vancomycin
   - Obtain blood cultures today
   - Repeat echo to evaluate for vegetations - negative
   # Recent respiratory failure: now extubated. Was intubated as patient
   was considered a danger to self given agitation during sheath pull.
   - Keep HOB elevated
   - Pulmonary toilet
   - will need S&S eval
    #  Afib: s/p PVI ablation.
   - amio 200 mg tid for 1 week, 200 mg [**Hospital1 **] for 1 month (started [**3-14**]),
   and 200 mg daily thereafter
   # AVR:  Patient has [**First Name8 (NamePattern2) **] [**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 5492**] which requires
   anti-coagulation.  Anticoagulation restarted with heparin.
   - continue heparin gtt with goal PTT 50-70
   - monitor Hct
   - no warfarin yet, but consider starting soon once bacteremia improves
   # Hypercholesterolemia:
   - continue home rosuvastatin 10 mg po daily
   # FEN:  TF / monitor & replete / euvolemic
   #. PPx:  Pneumoboots, PPI, bowel regimen
   #. Code: Full Code
   #. Dispo: Call out to floor today
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-24**] 12:42 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-3-24**] 04:52 AM
   18 Gauge - [**2195-3-24**] 04:53 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: Transfer to floor

2195-03-24 11:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   TTE was poor quality but no definite evidence of endocarditis. On vanco
   and ceftriaxone.
 TRANSTHORACIC ECHO - At [**2195-3-23**] 01:33 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2195-3-22**] 03:58 AM
   Ceftriaxone - [**2195-3-23**] 12:00 PM
   Vancomycin - [**2195-3-23**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-3-24**] 08:00 AM
   Furosemide (Lasix) - [**2195-3-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-3-24**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 94 (77 - 96) bpm
   BP: 139/67(83) {104/51(64) - 148/77(94)} mmHg
   RR: 17 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 88 kg (admission): 97 kg
   Height: 72 Inch
             Total In:
                                                                  2,442 mL
                                                                  1,127 mL
   PO:
             TF:
                                                                  1,577 mL
                                                                    864 mL
   IVF:
                                                                    775 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    790 mL
   Urine:
                                                                  1,710 mL
                                                                    790 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    132 mL
                                                                    337 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   519 K/uL
   127 mg/dL
   0.9 mg/dL
   21 mEq/L
   5.2 mEq/L
   35 mg/dL
   104 mEq/L
   141 mEq/L
   33.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2195-3-20**]  11:23 AM
                             [**2195-3-20**]  05:21 PM
                             [**2195-3-20**]  07:55 PM
                             [**2195-3-21**]  02:17 AM
                             [**2195-3-21**]  07:40 AM
                             [**2195-3-21**]  05:07 PM
                             [**2195-3-22**]  03:16 AM
                             [**2195-3-22**]  04:32 PM
                             [**2195-3-23**]  03:12 AM
                             [**2195-3-24**]  04:00 AM
   WBC
   12.4
   13.4
   15.2
   13.5
   Hct
   31.0
   31.0
   31.2
   32.7
   33.3
   31.4
   30.7
   31.9
   34.8
   33.2
   Plt
   [**Telephone/Fax (3) 6488**]19
   Cr
   0.7
   0.7
   0.7
   0.9
   Glucose
   131
   147
   159
   127
   Other labs: PT / PTT / INR:14.9/70.5/1.3, ALT / AST:27/44, Alk Phos / T
   Bili:35/1.0, Differential-Neuts:82.4 %, Lymph:8.1 %, Mono:5.6 %,
   Eos:3.3 %, Lactic Acid:1.3 mmol/L, Albumin:3.5 g/dL, LDH:281 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 INFERIOR VENA CAVAL THROMBOSIS (IVC)
 PAIN, ANAL OR RECTAL
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ATRIAL FIBRILLATION (AFIB)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Plan:
   1. AMS: [**Month (only) 51**] still be recovering from valium, vs. hepatic enceph, neuro
   w/u unrevealing
   -cont. lactulose
   -thiamine
   2. Bacteremia/PNA:
   -vanco/ctx
   -f/u BCx
   3. AVR/afib:
   -heparin gtt
   -TTE neg for endocarditis
   -amiodarone
   4. Groin bleed:
   -follow hct
   -groin exam stable
   5. FEN: TF
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-3-24**] 12:42 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2195-3-24**] 04:52 AM
   18 Gauge - [**2195-3-24**] 04:53 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes